2130-12-12 09:10:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2130-12-11**] 10:00 AM
 MULTI LUMEN - START [**2130-12-11**] 10:59 AM
   Pressors weaned (now to levophed only).
   FiO2 weaned.
   ETT advanced.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2130-12-9**] 10:11 AM
   Cefipime - [**2130-12-11**] 05:59 AM
   Ciprofloxacin - [**2130-12-11**] 05:59 PM
   Vancomycin - [**2130-12-11**] 09:30 PM
   Meropenem - [**2130-12-11**] 10:30 PM
   Metronidazole - [**2130-12-12**] 02:38 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Fentanyl (Concentrate) - 140 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-11**] 04:08 PM
   Famotidine (Pepcid) - [**2130-12-11**] 08:00 PM
   Other medications: SQH, folate, vanco, mexilitene 150 PO q8h, midaz,
   cipro, H2B, tamiflu, fent, colace, levophed, flagyl, fluconazole,
   hydrocort 50 q6, meropenem, vanco oral
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-12**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 74 (74 - 92) bpm
   BP: 124/64(84) {99/57(73) - 139/76(99)} mmHg
   RR: 24 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 79.8 kg
   CVP: 11 (9 - 17)mmHg
   Bladder pressure: 15 (14 - 15) mmHg
   Total In:
                                                                  4,494 mL
                                                                    529 mL
   PO:
   TF:
   IVF:
                                                                  3,114 mL
                                                                    469 mL
   Blood products:
                                                                  1,200 mL
   Total out:
                                                                  1,525 mL
                                                                    820 mL
   Urine:
                                                                    625 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
                                                                    900 mL
                                                                    400 mL
   Balance:
                                                                  2,969 mL
                                                                   -291 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 410 (410 - 410) mL
   RR (Set): 22
   RR (Spontaneous): 2
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   SpO2: 100%
   ABG: 7.36/38/117/22/-3
   Ve: 8.5 L/min
   PaO2 / FiO2: 234
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   8.5 g/dL
   33 K/uL
   188 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.1 mEq/L
   21 mg/dL
   106 mEq/L
   133 mEq/L
   24.9 %
   6.3 K/uL
        [image002.jpg]
                            [**2130-12-11**]  05:58 AM
                            [**2130-12-11**]  09:38 AM
                            [**2130-12-11**]  09:47 AM
                            [**2130-12-11**]  11:51 AM
                            [**2130-12-11**]  02:14 PM
                            [**2130-12-11**]  02:54 PM
                            [**2130-12-11**]  05:50 PM
                            [**2130-12-11**]  10:54 PM
                            [**2130-12-12**]  03:20 AM
                            [**2130-12-12**]  03:31 AM
   WBC
   17.5
   12.4
   6.3
   Hct
   33.9
   30.0
   24.9
   Plt
   84
   62
   33
   Cr
   0.8
   0.9
   0.8
   TropT
   0.02
   TCO2
   19
   18
   18
   18
   19
   20
   22
   Glucose
   151
   165
   188
   Other labs: PT / PTT / INR:26.8/49.1/2.6, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:14/55, Alk Phos / T Bili:46/2.2, Amylase
   / Lipase:/9, Differential-Neuts:88.1 %, Lymph:7.3 %, Mono:3.4 %,
   Eos:1.0 %, Lactic Acid:2.2 mmol/L, Albumin:3.1 g/dL, LDH:597 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   58-year-old man with
          Hypoxemic respiratory failure / ARDS
          Septic shock
          Oliguria resolved
          Cirrhosis
          Coagulopathy
          Adrenal insufficiency
   With hemodynamic management, steroids, and time he has improved
   somewhat.  Today we will plan:
          Wean PEEP and FiO2 as tolerated
          Continue present antibiotics, esp. for C diff.  Continue
   oseltamivir while awaiting PCR and culture.
          CT today.
          Based on CT results, discuss with hepatology and consider
   colonoscopic decompression or CT.  [**Last Name (un) 5975**]
s also in DDx.
          Continue steroids for adrenal insufficiency.
          Send peritoneal fluid (auto-paracentesing) for cell count.
   [**Month (only) 11**] have contaminated culture.
          Wean pressors as tolerated.  If CVP falls, albumin.
          Send rheumatoid factor and cryocrit.
   ICU Care
   Nutrition: hold TF while evaluating gut
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   20 Gauge - [**2130-12-10**] 11:30 AM
   18 Gauge - [**2130-12-10**] 06:33 PM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum
          Seen several times throughout the day.
          Full CT impression pending.  No free air and no clear
   pneumatosis to my eye.
          Pressors continued to wean.
          PEEP down to 10.  Will try to move to 8, and hold/decrease
   sedation for potential RSBI/SBT in a.m.
          Met with HCP brother, as well as several other family
   members, and reviewed details of case in detail.  All questions
   answered.
   40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2130-12-12**] 10:13 PM ------

2130-12-13 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Acute onset resp distress
   24 Hour Events:
   - repeat KUB: stably dilated colon loops.
   - stool cultures pending this am, C.diff negative
   - CT abdomen/pelvis with contrast results: distended colon w/ stool and
   gas, without wall-thickening, obstruction or pneumatosis.  ?
   pseudo-obstruction ([**Last Name (un) 5977**]).
   - Hepatology considering colonic decompression.
   - RF and cryocrit sent: RF negative, cryo crit negative.
   - repeat sputum and endotrach asp for viral/bacteria studies
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-12-11**] 05:59 AM
   Vancomycin - [**2130-12-12**] 08:30 PM
   Metronidazole - [**2130-12-13**] 03:00 AM
   Meropenem - [**2130-12-13**] 04:00 AM
   Ciprofloxacin - [**2130-12-13**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-12**] 04:37 PM
   Famotidine (Pepcid) - [**2130-12-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-13**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.3
   HR: 78 (62 - 78) bpm
   BP: 92/51(64) {92/51(64) - 127/64(84)} mmHg
   RR: 25 (21 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 79.8 kg
    CVP: 22 (10 - 22)mmHg
   Total In:
                                                                  2,212 mL
                                                                    561 mL
   PO:
   TF:
   IVF:
                                                                  2,092 mL
                                                                    501 mL
   Blood products:
   Total out:
                                                                  4,830 mL
                                                                  1,960 mL
   Urine:
                                                                  2,580 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
                                                                  2,250 mL
                                                                  1,450 mL
   Balance:
                                                                 -2,618 mL
                                                                 -1,399 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 410 (410 - 410) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: 7.41/37/104/21/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General: hyperpigmented skin, hair loss on pillow.  Coarse breath
   sounds, NRRR no murmurs, distended abdomen, 3+ pitting edema in LE and
   2+ edema in hands.  Pulses not palpable, but auscultated with Doppler.
   Labs / Radiology
   30 K/uL
   8.1 g/dL
   132 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.0 mEq/L
   21 mg/dL
   107 mEq/L
   135 mEq/L
   24.4 %
   5.0 K/uL
        [image002.jpg]
                            [**2130-12-11**]  05:50 PM
                            [**2130-12-11**]  10:54 PM
                            [**2130-12-12**]  03:20 AM
                            [**2130-12-12**]  03:31 AM
                            [**2130-12-12**]  09:12 AM
                            [**2130-12-12**]  10:28 AM
                            [**2130-12-12**]  02:52 PM
                            [**2130-12-12**]  05:02 PM
                            [**2130-12-13**]  02:28 AM
                            [**2130-12-13**]  02:54 AM
   WBC
   6.3
   6.9
   5.0
   Hct
   24.9
   24.6
   25.8
   24.4
   Plt
   33
   44
   30
   Cr
   0.8
   0.7
   0.8
   TCO2
   19
   20
   22
   23
   23
   24
   Glucose
   188
   173
   132
   Other labs: PT / PTT / INR:24.8/52.3/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:18/45, Alk Phos / T Bili:48/1.2, Amylase
   / Lipase:/9, Differential-Neuts:86.8 %, Lymph:6.1 %, Mono:6.1 %,
   Eos:0.9 %, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:597 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Imaging:
   [**2130-12-12**] CT ABDOMEN W/CONT
   Preliminary Report !! PFI !!
   1. No evidence of small or large bowel obstruction.
   2. Cirrhotic liver with splenomegaly, ascites, and gastric varices.
   3. Multifocal pneumonia with bilateral pleural effusions.
   [**12-12**] CXR
   HISTORY: Multifocal pneumonia.
   FINDINGS: In comparison with study of [**12-11**], tip of the ET tube is now
   approximately 3.2 cm above the carina. The tip of the nasogastric tube
   again
   lies within the lower esophagus. Central catheters are in standard
   position.
   Diffuse bilateral airspace consolidations are again seen. Although the
   shift
   and appearance among various images suggests pulmonary edema as the
   primary
   abnormality, the possibility of supervening pneumonia or even ARDS must
   be
   considered.
   Microbiology: [**2130-12-12**]  Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Antigen Screen-PENDING; VIRAL CULTURE-PENDING
   INPATIENT
   [**2130-12-12**]  PERITONEAL FLUID GRAM STAIN-FINAL; FLUID
   CULTURE-PRELIMINARY; ANAEROBIC CULTURE-PRELIMINARY INPATIENT
   [**2130-12-12**]  Mini-BAL GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY;
   FUNGAL CULTURE-PRELIMINARY; ACID FAST CULTURE-PRELIMINARY; ACID FAST
   SMEAR-PRELIMINARY; Immunoflourescent test for Pneumocystis jirovecii
   (carinii)-FINAL INPATIENT
   [**2130-12-11**]  STOOL FECAL CULTURE-PENDING; CAMPYLOBACTER CULTURE-PENDING;
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL INPATIENT
   [**2130-12-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2130-12-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2130-12-11**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [**2130-12-11**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2130-12-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2130-12-10**]  Influenza A/B by DFA
   Not adequate sample
   [**2130-12-10**]  BRONCHOALVEOLAR LAVAGE NO ORG. Cultures NTD
   [**2130-12-8**]   HCV VIRAL LOAD   195,000 IU/mL.
   [**2130-12-8**]  PERITONEAL FLUID
   NO ORG. Cultures NTD
   [**2130-12-8**]  Influenza A/B by DFA FINAL-NEGATIVE
   [**2130-12-8**]  URINE CULTURE-FINAL {PROBABLE ENTEROCOCCUS}
   [**2130-12-7**]  MRSA SCREEN MRSA SCREEN-FINAL NEGATIVE
   [**2130-12-7**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
   58 yo male with esophageal CA in remission and hepatitis C returning to
   the ICU with new hypoxic respiratory failure that has developed in the
   last 12 hours.
   # Colonic distension: Patient
s abdomen is distended though not tense.
   KUB concerning for dramatically distended colon.  C-diff negative.
   Partially improved with rectal tube placement.  Seen by surgery, felt
   he was too high risk to even consider OR (estimated 80% mortality).
   Ddx is obstruction, C.diff mediated megacolon and acute
   pseudo-obstruction ([**Last Name (un) 5975**]
s syndrome). CT scan w/ contrast confirmed
   no anatomic obstruction.  No cause found.  Repeat C. diff negative
   - Continue treating C.Diff w/ IV Flagyl and PO Vanco d/t grim clinical
   scenario
   - NPO for now
   - decompression with GI today or tomorrow.
   - If decompression does not work, will consider neostigmine
   # Respiratory failure: BNP 743 and echo normal, CTA negative, rapidly
   evolving CXRs, appears to be septic from likely pulmonary source.  His
   respiratory status has improved slightly but he remains ventilator
   dependent on assist control.  He has new, extensive ground-glass
   opacities on CT scan suggestive of atypical pneumonia, which we are
   covering with Vanc/Meropenem/Flagyl/Cipro.  His BAL fluid was an
   inadequate specimen to rule-out flu, so we are continuing oseltamivir
   for the time being. Checked rheumatoid factor and cryocrit for possible
   pulmonary hemorrhage from cryoglobulinemia given history of Hep C.
   These were both negative.
   - repeat sputum cultures with endotracheal/mini-BAL sample for flu DFA
   and bacterial culture sent yesterday.  Is still pending.
   - Continue Vanc/Meropenem/Flagyl/Cipro.  Will determine course w/ ID.
   - Continue nebulizers and guaifenisen PRN.
   - Fix abdominal issues as above.
   # Hypotension: Has been able to come off of pressors except for
   Levophed and his lactate has improved to normal range.  Appears to have
   relatively normal cardiac function.  His hypotension appears to have
   been from shock, which has improved.  Hypotension multifactorial from
   sepsis, adrenal insufficiency and liver disease.  His sepsis is likely
   coming from his lungs, though we will culture his peritoneal fluid for
   a possible abdominal source.  He did not respond to a cortisol stim
   test [**12-8**], so we are giving fluticasone and hydrocortisone for adrenal
   insufficiency.  He does have likely d/t 3rd spacing in the setting of
   malnutrition, liver disease, and cancer.
   - ABx as above
   - Wean levophed further as tolerated.
   - fluticasone 0.05 and hydrocortisone for adrenal insufficiency
   -Albumin 1g/kg today (decided on 75 total)
   .
   # Low UOP: Has improved with improving hemodynamics and creatinine is
   stable.  Was likely ischemia in the setting of hypotension from shock.
   #: Anasarca/ Liver disease: Most likely d/t liver disease, although
   cannot r/o some cardiac involvement
   - f/u hepatology recs
   - Albumin 1g/kg today
   .
   #: Esophageal CA: thought to be definitively treated with cisplatin and
   5-FU.
   - f/u whether Dr. [**Last Name (STitle) 1932**] has input.
   .
   #Access: L IJ, A line, chemo port and PIV.
   #FEN: replete electrolytes PRN, holding tube feeds because of colonic
   distension.
   #Prophy: pneumoboots, heparin TID, type and screen
   #Code status: Full Code
   #Communication: Patient; brother is health care proxy
   #Dispo: pending clinical stability
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2130-12-13 10:53:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: shock, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT without obstruction or resp failure
   On and off pressors
   Down to PEEP 8
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-12-11**] 05:59 AM
   Metronidazole - [**2130-12-13**] 03:00 AM
   Ciprofloxacin - [**2130-12-13**] 06:00 AM
   Vancomycin - [**2130-12-13**] 08:06 AM
   Meropenem - [**2130-12-13**] 10:18 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-12-13**] 09:06 AM
   Heparin Sodium (Prophylaxis) - [**2130-12-13**] 09:06 AM
   Other medications:
   folate, SQH, vanco, midaz off, fent 25, cipro, H2B, tamiflu, levophed @
   .02, colace, flagyl, fludrocort, hydrocort, meropenem, enteral vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-13**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.5
C (95.9
   HR: 62 (61 - 78) bpm
   BP: 95/52(67) {76/42(64) - 127/64(84)} mmHg
   RR: 22 (21 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 79.8 kg
   CVP: 8 (8 - 22)mmHg
   Total In:
                                                                  2,212 mL
                                                                  1,044 mL
   PO:
   TF:
   IVF:
                                                                  2,092 mL
                                                                    894 mL
   Blood products:
   Total out:
                                                                  4,830 mL
                                                                  2,130 mL
   Urine:
                                                                  2,580 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
                                                                  2,250 mL
                                                                  1,450 mL
   Balance:
                                                                 -2,618 mL
                                                                 -1,086 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 410 (410 - 410) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.41/37/104/21/0
   Ve: 8.1 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   8.1 g/dL
   30 K/uL
   132 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.0 mEq/L
   21 mg/dL
   107 mEq/L
   135 mEq/L
   24.4 %
   5.0 K/uL
        [image002.jpg]
                            [**2130-12-11**]  05:50 PM
                            [**2130-12-11**]  10:54 PM
                            [**2130-12-12**]  03:20 AM
                            [**2130-12-12**]  03:31 AM
                            [**2130-12-12**]  09:12 AM
                            [**2130-12-12**]  10:28 AM
                            [**2130-12-12**]  02:52 PM
                            [**2130-12-12**]  05:02 PM
                            [**2130-12-13**]  02:28 AM
                            [**2130-12-13**]  02:54 AM
   WBC
   6.3
   6.9
   5.0
   Hct
   24.9
   24.6
   25.8
   24.4
   Plt
   33
   44
   30
   Cr
   0.8
   0.7
   0.8
   TCO2
   19
   20
   22
   23
   23
   24
   Glucose
   188
   173
   132
   Other labs: PT / PTT / INR:24.8/52.3/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:18/45, Alk Phos / T Bili:48/1.2, Amylase
   / Lipase:/9, Differential-Neuts:86.8 %, Lymph:6.1 %, Mono:6.1 %,
   Eos:0.9 %, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:597 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   58-year-old man with
          Hypoxemic respiratory failure / ARDS
          Septic shock
          Oliguria
          Cirrhosis
          Coagulopathy
          Adrenal insufficiency
   With hemodynamic management, steroids, and time he has improved
   substantially.  Today, we will:
          Treat with albumin (continues to auto-paracentese about 4L)
          Continue present antibiotics and await cx including 3^rd c
   diff
          Viral culture is negative for influenza
 d/c tamiflu and
   droplet precautions
          Wean PEEP and FiO2 as tolerated
 failed SBT today
          Dscuss with hepatology utility of flex sig for ?diagnosis
   and ?potential therapy/decompression.  If [**Last Name (un) 5975**]
s felt most likely,
   may be reasonable to try pharmacologic rx.
          Continue steroids for adrenal insufficiency.  If still
   requiring pressors, may go up a bit, or potentially to add midodrine.
   Met with family and reviewed case/course yesterday.
   ICU Care
   Nutrition: NPO for now while awaiting resolution of bowel symptoms.  If
   still a problem, begin TPN by end of week.
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments: family meeting last evening
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 min
   Patient is critically ill

2130-12-14 06:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Acute hypoxia
   This is not an admission note, this is a progress note
   Flexsigmoidoscopy for decompression today.
   Had to go back on levophed for this at 0.05
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-12-13**] 06:00 AM
   Vancomycin - [**2130-12-13**] 08:37 PM
   Metronidazole - [**2130-12-14**] 03:13 AM
   Meropenem - [**2130-12-14**] 04:05 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-13**] 04:00 PM
   Midazolam (Versed) - [**2130-12-13**] 08:38 PM
   Fentanyl - [**2130-12-13**] 08:38 PM
   Famotidine (Pepcid) - [**2130-12-13**] 08:52 PM
   Other medications:
   Flowsheet Data as of [**2130-12-14**] 06:08 AM
   Vital Signs
   Hemodynamic monitoring
   Fluid Balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 90 (61 - 108) bpm
   BP: 112/63(79) {76/42(64) - 114/63(79)} mmHg
   RR: 22 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 79.8 kg
   CVP: 14 (5 - 16)mmHg
   Total In:
                                                                  2,127 mL
                                                                    278 mL
   PO:
   TF:
   IVF:
                                                                  1,677 mL
                                                                    278 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  3,930 mL
                                                                    630 mL
   Urine:
                                                                  1,880 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
                                                                  2,050 mL
   Balance:
                                                                 -1,803 mL
                                                                   -352 mL
   Respiratory
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 410 (410 - 410) mL
   Vt (Spontaneous): 486 (486 - 486) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 24 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.43/33/114/20/0
   Ve: 13.1 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Sedated on vent; hyperpigmented skin; hair loss with hair on pillow;
   coarse breath sounds with no crackles or wheezes; distended abdomen
   with ?TTP (patient aroused from sedation somewhat when press on
   abdomen); 3+ pitting edema in LE and 2+ edema of hands; pulses present
   and palpable (edema is improved from yesterday)
   Labs / Radiology
   24 K/uL
   7.4 g/dL
   127 mg/dL
   0.9 mg/dL
   23 mg/dL
   20 mEq/L
   111 mEq/L
   4.4 mEq/L
   138 mEq/L
   21.2 %
   3.7 K/uL
        [image002.jpg]
                                  [**2127-1-27**]
                         2:33 A11/17/[**2130**]  03:31 AM
                                  [**2127-1-31**]
                         10:20 P11/17/[**2130**]  09:12 AM
                                  [**2127-2-1**]
                         1:20 P11/17/[**2130**]  10:28 AM
                                  [**2127-2-2**]
                         11:50 P11/17/[**2130**]  02:52 PM
                                  [**2127-2-3**]
                         1:20 A11/17/[**2130**]  05:02 PM
                                  [**2127-2-4**]
                         7:20 P11/18/[**2130**]  02:28 AM
                                  1//11/006
                         1:23 P11/18/[**2130**]  02:54 AM
                                  [**2127-2-27**]
                         1:20 P11/18/[**2130**]  05:59 PM
                                  [**2127-2-27**]
                         11:20 P11/19/[**2130**]  03:14 AM
                                  [**2127-2-27**]
                         4:20 P11/19/[**2130**]  03:45 AM
   WBC
                                     6.9
                                     5.0
                                     3.7
   Hct
                                    24.6
                                    25.8
                                    24.4
                                    21.2
   Plt
                                     44
                                     30
                                     24
   Cr
                                     0.7
                                     0.8
                                     0.9
   TC02
                                     22
                                     23
                                     23
                                     24
                                     23
                                     23
   Glucose
                                     173
                                     132
                                     127
   Other labs: PT / PTT / INR:24.8/52.3/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:13/52, Alk Phos / T Bili:35/1.2, Amylase
   / Lipase:/9, Differential-Neuts:86.8 %, Lymph:6.1 %, Mono:6.1 %,
   Eos:0.9 %, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:597 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR [**12-13**]
   IMPRESSION:
   No overall change in severity of moderate to severe probably
   non-cardiogenic
   pulmonary edema
   Microbiology: [**2130-12-13**]  Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-PRELIMINARY; Respiratory Viral Antigen
   Screen-FINAL INPATIENT
   [**2130-12-12**]  PERITONEAL FLUID GRAM STAIN-FINAL; FLUID
   CULTURE-PRELIMINARY; ANAEROBIC CULTURE-PRELIMINARY INPATIENT
   [**2130-12-12**]  Mini-BAL GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY;
   FUNGAL CULTURE-PRELIMINARY; ACID FAST CULTURE-PRELIMINARY; ACID FAST
   SMEAR-FINAL; Immunoflourescent test for Pneumocystis jirovecii
   (carinii)-FINAL INPATIENT
   [**2130-12-11**]  STOOL FECAL CULTURE-FINAL; CAMPYLOBACTER CULTURE-FINAL;
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   [**2130-12-8**]  URINE URINE CULTURE-FINAL {PROBABLE ENTEROCOCCUS}
   Assessment and Plan
   58 yo male with esophageal CA in remission and hepatitis C returning to
   the ICU with new hypoxic respiratory failure that has developed in the
   last 12 hours.
   .
   # Respiratory failure: BNP 743 and echo normal, CTA negative, rapidly
   evolving CXRs, appears to be septic from likely pulmonary source.  His
   respiratory status has improved slightly but he remains ventilator
   dependent on assist control.  He has new, extensive ground-glass
   opacities on CT scan suggestive of atypical pneumonia, which we are
   covering with Vanc/Meropenem/Flagyl/Cipro.  His BAL fluid was an
   inadequate specimen to rule-out flu, so we are continuing oseltamivir
   for the time being. Checked rheumatoid factor and cryocrit for possible
   pulmonary hemorrhage from cryoglobulinemia given history of Hep C.
   These were both negative.
   - passed RSBI this morning, will trial SBT this morning
   - repeat sputum cultures with endotracheal/mini-BAL sample for flu DFA
   and bacterial culture sent yesterday.  Is still pending.
   - Continue Vanc/Meropenem/Flagyl/Cipro.  Will determine course w/ ID.
   - Continue nebulizers and guaifenisen PRN.
   - Fix abdominal issues as below
   .
   # Colonic distension: Patient
s abdomen is distended though not tense.
   KUB concerning for dramatically distended colon.  C-diff negative.
   Partially improved with rectal tube placement.  Seen by surgery, felt
   he was too high risk to even consider OR (estimated 80% mortality).
   Ddx is obstruction, C.diff mediated megacolon and acute
   pseudo-obstruction ([**Last Name (un) 5975**]
s syndrome). CT scan w/ contrast confirmed
   no anatomic obstruction.  No cause found.  Repeat C. diff negative
   - Continue treating C.Diff w/ IV Flagyl and PO Vanco d/t grim clinical
   scenario
   - NPO for now
   - decompression with GI today
   - If decompression does not work, will consider neostigmine
   .
   # Hypotension: Has been able to come off of pressors except for
   Levophed and his lactate has improved to normal range.  Appears to have
   relatively normal cardiac function.  His hypotension appears to have
   been from shock, which has improved.  Hypotension multifactorial from
   sepsis, adrenal insufficiency and liver disease.  His sepsis is likely
   coming from his lungs, though we will culture his peritoneal fluid for
   a possible abdominal source.  He did not respond to a cortisol stim
   test [**12-8**], so we are giving fluticasone and hydrocortisone for adrenal
   insufficiency.  He does have likely d/t 3rd spacing in the setting of
   malnutrition, liver disease, and cancer.
   - ABx as above
   - Wean levophed further as tolerated.
   - fludricortisone 0.1 and hydrocortisone  75 for adrenal insufficiency
   -Albumin 1g/kg today (decided on 75 total)
   .
   #Hct drop: Dropped to 21.2 from 24 this morning.  Rechecked 4 hours
   later and was 23.
   - q8 hour crit
   -<21
 transfusion
   .
   # Low UOP: Has improved with improving hemodynamics and creatinine is
   stable.  Was likely ischemia in the setting of hypotension from shock.
   .
   #: Anasarca/ Liver disease: Most likely d/t liver disease, although
   cannot r/o some cardiac involvement
   - f/u hepatology recs
   - Albumin 1g/kg today
   - Add lactulose for liver disease and bowel regimen
   .
   #: Esophageal CA: thought to be definitively treated with cisplatin and
   5-FU.
   - f/u whether Dr. [**Last Name (STitle) 1932**] has input.
   .
   #Access: L IJ, A line, chemo port and PIV.
   #FEN: replete electrolytes PRN, holding tube feeds because of colonic
   distension.
   #Prophy: pneumoboots, heparin TID, type and screen; lactulose for bowel
   regimen
   #Code status: Full Code
   #Communication: Patient; brother is health care proxy
   #Dispo: pending clinical stability
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2130-12-14 10:10:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresing.
   Increased sedation.
   Flex sig this morning -- [**Last Name (un) 5977**].
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2130-12-14**] 03:13 AM
   Meropenem - [**2130-12-14**] 04:05 AM
   Ciprofloxacin - [**2130-12-14**] 06:05 AM
   Vancomycin - [**2130-12-14**] 08:25 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-13**] 04:00 PM
   Famotidine (Pepcid) - [**2130-12-14**] 08:00 AM
   Midazolam (Versed) - [**2130-12-14**] 09:30 AM
   Fentanyl - [**2130-12-14**] 09:30 AM
   Other medications:
   vitamines, SQH, vanco, oral vanco, mexiletine, midaz, cipro, H2B,
   tamiflu, CHG, bowel reg, flagyl, meropenem, CQI, fludrocort, hydrocort,
   H2B
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-14**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 69 (62 - 108) bpm
   BP: 75/46(57) {75/46(57) - 124/65(85)} mmHg
   RR: 22 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 79.8 kg
   CVP: 13 (5 - 16)mmHg
   Total In:
                                                                  2,127 mL
                                                                    800 mL
   PO:
   TF:
   IVF:
                                                                  1,677 mL
                                                                    800 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  3,930 mL
                                                                  1,560 mL
   Urine:
                                                                  1,880 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
                                                                  2,050 mL
                                                                    600 mL
   Balance:
                                                                 -1,803 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 410 (410 - 410) mL
   Vt (Spontaneous): 486 (486 - 486) mL
   RR (Set): 22
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.43/33/114/20/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, diminshed distention after flex sig
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   7.4 g/dL
   24 K/uL
   127 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.4 mEq/L
   23 mg/dL
   111 mEq/L
   138 mEq/L
   23.0 %
   3.7 K/uL
        [image002.jpg]
                            [**2130-12-12**]  09:12 AM
                            [**2130-12-12**]  10:28 AM
                            [**2130-12-12**]  02:52 PM
                            [**2130-12-12**]  05:02 PM
                            [**2130-12-13**]  02:28 AM
                            [**2130-12-13**]  02:54 AM
                            [**2130-12-13**]  05:59 PM
                            [**2130-12-14**]  03:14 AM
                            [**2130-12-14**]  03:45 AM
                            [**2130-12-14**]  06:13 AM
   WBC
   6.9
   5.0
   3.7
   Hct
   24.6
   25.8
   24.4
   21.2
   23.0
   Plt
   44
   30
   24
   Cr
   0.7
   0.8
   0.9
   TCO2
   23
   23
   24
   23
   23
   Glucose
   173
   132
   127
   Other labs: PT / PTT / INR:24.8/52.3/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:13/52, Alk Phos / T Bili:35/1.2, Amylase
   / Lipase:/9, Differential-Neuts:86.8 %, Lymph:6.1 %, Mono:6.1 %,
   Eos:0.9 %, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:597 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   58-year-old man with
          Hypoxemic respiratory failure / ARDS
          Septic shock
 now on and off levophed
          Cirrhosis
          Coagulopathy
          Adrenal insufficiency
          [**Last Name (un) 5975**]
s syndrome
   With hemodynamic management, steroids, and time he has improved
   substantially.  Today, we will:
          Get another c diff
 if three negative and negative flex sig
   then d/c
          Continue other current ABX for 7d course if cx remain
   negative
          Hold sedation and try SBT later today
          Follow Hct
          Continue present steroids for now.
          Check KUB; if [**Last Name (un) 5975**]
s recurs then consider neostigmine.
          NPO for today; trial of TF tomorrow; if unsuccessful,
   consider TPN
   ICU Care
   Nutrition: NPO for today; trial of TF tomorrow; if unsuccessful,
   consider TPN.
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-12-15 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Had SBT for 45mins that was stopped for tachypnea and agitation, put
   back on PS 10/5 --> not extubated
   - Repeat KUB showing: Dilatation of the colon has resolved. No evidence
   of large or small bowel obstruction.
   - Had colonoscopy with dilated rectum to R colon, no obstruction or
   volvulus. Was decompressed.
   - 2pm ABG: 7.45/32/80/23 --> 9pm ABG 7.38/40/51/25 --> went up on PEEP
   5 --> 8
   - 75g Albumin given
   - Repeat CXR showing: Dense airspace opacity is seen in both lungs,
   with new obscuration of the right hemidiaphragm, which may represent
   non-cardiogenic pulmonary edema. No pneumothorax.
   - Weaning Levophed, have d/c'd other pressors --> currently not on any
   pressors
   - Noon Hct 23.1
   - 3rd Cdiff pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-12-14**] 06:05 AM
   Vancomycin - [**2130-12-14**] 08:16 PM
   Meropenem - [**2130-12-15**] 03:51 AM
   Metronidazole - [**2130-12-15**] 04:46 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-12-14**] 08:00 AM
   Midazolam (Versed) - [**2130-12-14**] 09:30 AM
   Fentanyl - [**2130-12-14**] 07:17 PM
   Propofol - [**2130-12-14**] 07:17 PM
   Other medications:
   Flowsheet Data as of  [**2130-12-15**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 96 (66 - 118) bpm
   BP: 121/61(82) {75/46(57) - 130/68(90)} mmHg
   RR: 26 (14 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 79.8 kg
    CVP: 10 (5 - 19)mmHg
   Total In:
                                                                  2,212 mL
                                                                    345 mL
   PO:
   TF:
   IVF:
                                                                  1,772 mL
                                                                    345 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,550 mL
                                                                    170 mL
   Urine:
                                                                  1,950 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
                                                                    600 mL
   Balance:
                                                                   -338 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 410 (410 - 410) mL
   Vt (Spontaneous): 565 (565 - 590) mL
   PS : 0 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 66
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.46/32/104/20/0
   Ve: 13.6 L/min
   PaO2 / FiO2: 208
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   24 K/uL
   7.8 g/dL
   161 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.9 mEq/L
   26 mg/dL
   112 mEq/L
   141 mEq/L
   23.4 %
   3.3 K/uL
        [image002.jpg]
                            [**2130-12-13**]  05:59 PM
                            [**2130-12-14**]  03:14 AM
                            [**2130-12-14**]  03:45 AM
                            [**2130-12-14**]  06:13 AM
                            [**2130-12-14**]  11:48 AM
                            [**2130-12-14**]  01:47 PM
                            [**2130-12-14**]  08:43 PM
                            [**2130-12-14**]  09:45 PM
                            [**2130-12-15**]  04:05 AM
                            [**2130-12-15**]  04:15 AM
   WBC
   3.7
   3.3
   Hct
   21.2
   23.0
   23.1
   23.4
   Plt
   24
   24
   Cr
   0.9
   0.9
   TCO2
   23
   23
   23
   25
   24
   23
   Glucose
   127
   161
   Other labs: PT / PTT / INR:24.8/52.3/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:15/46, Alk Phos / T Bili:39/1.6, Amylase
   / Lipase:/9, Differential-Neuts:86.8 %, Lymph:6.1 %, Mono:6.1 %,
   Eos:0.9 %, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:597 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: [**12-14**] PORTABLE SUPINE CHEST RADIOGRAPH: Heart size is top
   normal although obscured.
   Endotracheal tube is 2.1 cm from the carina, bilateral internal jugular
   catheters are unchanged, in standard position. Dense airspace opacity
   is seen
   in both lungs, with new obscuration of the right hemidiaphragm, which
   may
   represent non-cardiogenic pulmonary edema. No pneumothorax.
   Microbiology: [**2130-12-14**] 11:49 am STOOL     Feces negative for
   C.difficile toxin A & B by EIA.
   [**2130-12-8**]  URINE URINE CULTURE-FINAL {PROBABLE ENTEROCOCCUS}
   All BAL, sputum, stool, and blood cultures have been NTD
   Assessment and Plan
   58 yo male with esophageal CA in remission and hepatitis C returning to
   the ICU with new hypoxic respiratory failure that has developed in the
   last 12 hours.
   .
   # Respiratory failure: BNP 743 and echo normal, CTA negative, rapidly
   evolving CXRs, appears to be septic from likely pulmonary source.  His
   respiratory status has improved slightly but he remains ventilator
   dependent on assist control.  He has new, extensive ground-glass
   opacities on CT scan suggestive of atypical pneumonia, which we are
   covering with Vanc/Meropenem/Flagyl/Cipro.  His BAL fluid was an
   inadequate specimen to rule-out flu, so we are continuing oseltamivir
   for the time being. Checked rheumatoid factor and cryocrit for possible
   pulmonary hemorrhage from cryoglobulinemia given history of Hep C.
   These were both negative.
   - passed RSBI this morning, will trial SBT this morning
   - repeat sputum cultures with endotracheal/mini-BAL sample for flu DFA
   and bacterial culture sent yesterday.  Is still pending.
   - Continue Vanc/Meropenem/Flagyl/Cipro.  Will determine course w/ ID.
   - Continue nebulizers and guaifenisen PRN.
   - Fix abdominal issues as below
   .
   # Colonic distension: Patient
s abdomen is distended though not tense.
   KUB concerning for dramatically distended colon.  C-diff negative.
   Partially improved with rectal tube placement.  Seen by surgery, felt
   he was too high risk to even consider OR (estimated 80% mortality).
   Ddx is obstruction, C.diff mediated megacolon and acute
   pseudo-obstruction ([**Last Name (un) 5975**]
s syndrome). CT scan w/ contrast confirmed
   no anatomic obstruction.  No cause found.  Repeat C. diff negative
   - Continue treating C.Diff w/ IV Flagyl and PO Vanco d/t grim clinical
   scenario
   - NPO for now
   - decompression with GI today
   - If decompression does not work, will consider neostigmine
   .
   # Hypotension: Has been able to come off of pressors except for
   Levophed and his lactate has improved to normal range.  Appears to have
   relatively normal cardiac function.  His hypotension appears to have
   been from shock, which has improved.  Hypotension multifactorial from
   sepsis, adrenal insufficiency and liver disease.  His sepsis is likely
   coming from his lungs, though we will culture his peritoneal fluid for
   a possible abdominal source.  He did not respond to a cortisol stim
   test [**12-8**], so we are giving fluticasone and hydrocortisone for adrenal
   insufficiency.  He does have likely d/t 3rd spacing in the setting of
   malnutrition, liver disease, and cancer.
   - ABx as above
   - Wean levophed further as tolerated.
   - fludricortisone 0.1 and hydrocortisone  75 for adrenal insufficiency
   -Albumin 1g/kg today (decided on 75 total)
   .
   #Hct drop: Dropped to 21.2 from 24 this morning.  Rechecked 4 hours
   later and was 23.
   - q8 hour crit
   -<21
 transfusion
   .
   # Low UOP: Has improved with improving hemodynamics and creatinine is
   stable.  Was likely ischemia in the setting of hypotension from shock.
   .
   #: Anasarca/ Liver disease: Most likely d/t liver disease, although
   cannot r/o some cardiac involvement
   - f/u hepatology recs
   - Albumin 1g/kg today
   - Add lactulose for liver disease and bowel regimen
   .
   #: Esophageal CA: thought to be definitively treated with cisplatin and
   5-FU.
   - f/u whether Dr. [**Last Name (STitle) 1932**] has input.
   .
   #Access: L IJ, A line, chemo port and PIV.
   #FEN: replete electrolytes PRN, holding tube feeds because of colonic
   distension.
   #Prophy: pneumoboots, heparin TID, type and screen; lactulose for bowel
   regimen
   #Code status: Full Code
   #Communication: Patient; brother is health care proxy
   #Dispo: pending clinical stability
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2130-12-15 11:31:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, shock (resolved)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 COLONOSCOPY - At [**2130-12-14**] 09:20 AM
   Flex sig with decompression
   C diff negative
   Moving bowels now!
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2130-12-15**] 04:46 AM
   Ciprofloxacin - [**2130-12-15**] 06:00 AM
   Vancomycin - [**2130-12-15**] 08:00 AM
   Meropenem - [**2130-12-15**] 10:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2130-12-14**] 07:17 PM
   Propofol - [**2130-12-14**] 07:17 PM
   Famotidine (Pepcid) - [**2130-12-15**] 08:00 AM
   Other medications:
   meds reviewed from [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-15**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 98 (66 - 118) bpm
   BP: 123/58(80) {96/50(64) - 131/68(90)} mmHg
   RR: 27 (14 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 79.8 kg
   CVP: 3 (3 - 19)mmHg
   Total In:
                                                                  2,212 mL
                                                                  1,074 mL
   PO:
   TF:
   IVF:
                                                                  1,772 mL
                                                                  1,014 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,550 mL
                                                                    475 mL
   Urine:
                                                                  1,950 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
                                                                    600 mL
   Balance:
                                                                   -338 mL
                                                                    599 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 410 (410 - 410) mL
   Vt (Spontaneous): 565 (565 - 590) mL
   PS : 0 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 66
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.46/32/104/20/0
   Ve: 13.5 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   7.8 g/dL
   24 K/uL
   161 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.9 mEq/L
   26 mg/dL
   112 mEq/L
   141 mEq/L
   23.4 %
   3.3 K/uL
        [image002.jpg]
                            [**2130-12-13**]  05:59 PM
                            [**2130-12-14**]  03:14 AM
                            [**2130-12-14**]  03:45 AM
                            [**2130-12-14**]  06:13 AM
                            [**2130-12-14**]  11:48 AM
                            [**2130-12-14**]  01:47 PM
                            [**2130-12-14**]  08:43 PM
                            [**2130-12-14**]  09:45 PM
                            [**2130-12-15**]  04:05 AM
                            [**2130-12-15**]  04:15 AM
   WBC
   3.7
   3.3
   Hct
   21.2
   23.0
   23.1
   23.4
   Plt
   24
   24
   Cr
   0.9
   0.9
   TCO2
   23
   23
   23
   25
   24
   23
   Glucose
   127
   161
   Other labs: PT / PTT / INR:24.8/52.3/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:15/46, Alk Phos / T Bili:39/1.6, Amylase
   / Lipase:/9, Differential-Neuts:86.8 %, Lymph:6.1 %, Mono:6.1 %,
   Eos:0.9 %, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:597 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   58-year-old man with
          Hypoxemic respiratory failure / ARDS
 improving
          Septic shock
 now off levophed
          Cirrhosis
          Coagulopathy
          Adrenal insufficiency
          [**Last Name (un) 5975**]
s syndrome (most likely)
   With hemodynamic management, steroids, and time he has improved
   substantially.  Today, we will:
          Follow up final c diff. if three negative and negative flex
   sig then d/c
          Continue other current ABX for at least 7d course if cx
   remain negative
          Hold sedation and try SBT later today, preferably with
   propofol resumption if sedation needed
          Continue present steroids for now; consider weaning soon.
          Check KUB; if [**Last Name (un) 5975**]
s recurs then consider neostigmine.
          Tube feeds
          Give albumin given ongoing auto-paracentesis through IR
   paracentesis site.  Discuss with liver whether best approach is to
   leave draining or to consider closure attempt.
          No diuresis since appears on the dry side of euvolemic.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 35 min

2130-12-16 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
   - Cdiff negative x3.  Stopped flagyl and PO vanco.
   - failed SBT this morning - became tachypneic
   - albumin 1g/kg
   - hepatology re closing paracentesis site - would leave for now, with
   hopes that it will close spontaneously
   - KUB: continued improvement of colonic distention.
   - taper steroids tomorrow
   - Around 10pm pt tachypneic.  Increased sedation slightly and checked
   gas: 7.45/35/71.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2130-12-15**] 04:46 AM
   Vancomycin - [**2130-12-15**] 08:15 PM
   Meropenem - [**2130-12-16**] 04:30 AM
   Ciprofloxacin - [**2130-12-16**] 05:45 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-12-15**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2130-12-16**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-16**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 83 (65 - 108) bpm
   BP: 135/65(89) {102/50(65) - 147/75(100)} mmHg
   RR: 21 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 79.8 kg
    CVP: 6 (2 - 11)mmHg
   Total In:
                                                                  2,480 mL
                                                                    901 mL
   PO:
   TF:
                                                                    228 mL
                                                                    254 mL
   IVF:
                                                                  1,893 mL
                                                                    527 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  3,035 mL
                                                                    680 mL
   Urine:
                                                                  1,085 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
                                                                  1,150 mL
                                                                    350 mL
   Balance:
                                                                   -555 mL
                                                                    221 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 410 (410 - 410) mL
   RR (Set): 22
   RR (Spontaneous): 4
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.42/34/72/23/-1
   Ve: 13.8 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Gen: tan skin, sedated and intubated
   Heart: NRRR no murmurs
   Lungs: + rhonchi  and exp wheeze on L and +coarse BS on R
   L eye swelling and erythema
   Ext: 3+ edema in LE, resolved edema in hands
   Labs / Radiology
   25 K/uL
   7.6 g/dL
   178 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.4 mEq/L
   27 mg/dL
   113 mEq/L
   144 mEq/L
   23.8 %
   3.4 K/uL
        [image002.jpg]
                            [**2130-12-14**]  06:13 AM
                            [**2130-12-14**]  11:48 AM
                            [**2130-12-14**]  01:47 PM
                            [**2130-12-14**]  08:43 PM
                            [**2130-12-14**]  09:45 PM
                            [**2130-12-15**]  04:05 AM
                            [**2130-12-15**]  04:15 AM
                            [**2130-12-15**]  09:30 PM
                            [**2130-12-16**]  03:00 AM
                            [**2130-12-16**]  03:33 AM
   WBC
   3.3
   3.4
   Hct
   23.0
   23.1
   23.4
   23.8
   Plt
   24
   25
   Cr
   0.9
   0.8
   TCO2
   23
   25
   24
   23
   25
   23
   Glucose
   161
   178
   Other labs: PT / PTT / INR:31.8/91.5/3.2, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:11/31, Alk Phos / T Bili:47/1.6, Amylase
   / Lipase:/9, Differential-Neuts:91.5 %, Lymph:5.0 %, Mono:3.5 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:597 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Microbiology: [**2130-12-8**]  URINE URINE CULTURE-FINAL {PROBABLE
   ENTEROCOCCUS}
   All other cultures NTD
   Assessment and Plan
   58 yo male with esophageal CA in remission and hepatitis C returning to
   the ICU with new hypoxic respiratory failure that has developed in the
   last 12 hours. \
   .
   # Respiratory failure: BNP 743 and echo normal, CTA negative, rapidly
   evolving CXRs, appears to be septic from likely pulmonary source.  His
   respiratory status has improved slightly but he remains ventilator
   dependent on assist control.  He has new, extensive ground-glass
   opacities on CT scan suggestive of atypical pneumonia, which we are
   covering with Vanc/Meropenem/Cipro vs. ARDS.  Flu negative. Checked
   rheumatoid factor and cryocrit for possible pulmonary hemorrhage from
   cryoglobulinemia given history of Hep C. These were both negative.
   - passed RSBI this morning, failed SBT.  Keep intubated until resp
   issues improve
   - Continue Vanc/Meropenem/Cipro (day [**7-2**])
   - Continue nebulizers and Mucinex PRN.
   - Treat abdominal issues as below
   .
   # Colonic distension: Patient
s abdomen is distended though not tense.
   KUB was concerning for dramatically distended colon.  C-diff negative
   X3.  Partially improved with rectal tube placement.  Seen by surgery,
   felt he was too high risk to even consider OR (estimated 80%
   mortality).  CT scan w/ contrast confirmed no anatomic obstruction.
   Decompressed by GI.   KUB improved
   - repeat KUB qday to assure no bowel dilation return
   - Stop treating C.Diff w/ IV Flagyl and PO Vanco d/t  3 negative cdiff
   - NPO for now
   - aggressive bowel regimen
   - neostigmine 2mg with 0.04glycopyrrolate
   .
   # Hypotension: His hypotension appears to have been from shock, which
   has improved.  Hypotension multifactorial from sepsis, adrenal
   insufficiency and liver disease.  He did not respond to a cortisol stim
   test [**12-8**], so we are giving fluticasone and hydrocortisone for adrenal
   insufficiency.  He does have likely d/t 3rd spacing in the setting of
   malnutrition, liver disease, and cancer.
   - ABx as above
   - fludricortisone 0.1 and hydrocortisone  75 for adrenal insufficiency;
   start to wean today
   - Albumin 1g/kg today (decided on 75 total)
   .
   #Hct drop: Dropped to 21.2 from 24 this morning.  Rechecked 4 hours
   later and was 23 has been steady at 23.  Is pancyotpenic.  Possible
   shock reaction, possibly from chemo or some primary bone marrow
   source.
   - q12 hour crit
   -<21
 transfusion
   .
   # Low UOP: Has improved with improving hemodynamics and creatinine is
   stable.  Was likely ischemia in the setting of hypotension from shock.
   .
   #: Anasarca/ Liver disease: Most likely d/t liver disease, although
   cannot r/o some cardiac involvement
   - hep recs leaving draining paracentesis site for now and hoping will
   close on own
   - Albumin 1g/kg today
   - lactulose for liver disease and bowel regimen
   .
   #: Esophageal CA: thought to be definitively treated with cisplatin and
   5-FU.
   - f/u whether Dr. [**Last Name (STitle) 1932**] has input.
   .
   #Access: L IJ, A line, chemo port and PIV.
   #FEN: replete electrolytes PRN, decrease tube feeds to 10 d/t bowel
   distension
   #Prophy: pneumoboots, heparin TID, type and screen; lactulose for bowel
   regimen
   #Code status: Full Code
   #Communication: Patient; brother is health care proxy
   #Dispo: pending clinical stability
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-12-15**] 12:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Assessment and Plan
   CC: resp failure, ARDS
   58 year old with longstanding hep C. Recent esophageal ca thought to be
   in remission with chemo. Actually admitted with fatigue and hypotension
   that resolved.  Called out normotense and on room air, returned in
   3-pressor shock and PEEP 15 hypoxemic respiratory failure.  Probably
   [**Last Name (un) 5975**]
s, in addition to profound pulmonary infiltrates attributing to
   ARDS
   Issues:
          Hypoxemic respiratory failure / ARDS
 improving, now on PSV
          Septic shock
 improved
          D [**7-2**] vanc/meropenem/cipro for PNA, SBP, possible intraabdom
   source of initial septic shock
          Cirrhosis
          Encephalopathy (missed days of lactulose)
          Anasarca
          auto-paracentesing through a para site from I.R.  Loses
   liters per day through that, so receives albumin daily
          Coagulopathy
          Adrenal insufficiency
          [**Last Name (un) 5975**]
s syndrome (most likely)
          Pancytopenia- chemo, sepsis
   Currently on CMV 0.4/400/22/8 with ABG 7.42/34/72 and RSBI 40 this
   morning, but failed SBT after 15 minutes with hypoxemia, tachypnea.
   Sedation now at fent 50/h and prop 30/h
   Abdomen distended, on tube feeds at 40 cc/h
   Rhonchorous breath sounds, anasarca
          Trying to minimize sedation but failed SBT. Will continue
   full support and reattempt SBT in AM
          Continue present steroids for now; consider weaning soon.
          Started neostigmine for [**Last Name (un) **]
          Tube feeds- back to trophic
          Give albumin given ongoing auto-paracentesis through IR
   paracentesis site.  Discuss with liver whether best approach is to
   leave draining or to consider closure attempt.
          No diuresis yet, just off pressors yesterday
   Critically ill
   40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 101**] [**Last Name (NamePattern1) 65**], MD
   on:[**2130-12-16**] 20:09 ------

2130-12-17 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hepatic failure
   24 Hour Events:
   - Continues to be distended this morning so neostigmine and
   glycopyrrolate were given for his Ogilvies
   - Tachypneic on SBT after 30min.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2130-12-15**] 04:46 AM
   Vancomycin - [**2130-12-16**] 08:01 PM
   Meropenem - [**2130-12-17**] 04:23 AM
   Ciprofloxacin - [**2130-12-17**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-12-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-12-16**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-17**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 80 (60 - 92) bpm
   BP: 134/67(92) {98/52(66) - 138/71(94)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 79.8 kg
   Height: 68 Inch
    CVP: 8 (8 - 314)mmHg
   Total In:
                                                                  3,060 mL
                                                                    623 mL
   PO:
   TF:
                                                                    585 mL
                                                                     78 mL
   IVF:
                                                                  1,914 mL
                                                                    485 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,495 mL
                                                                    405 mL
   Urine:
                                                                  1,145 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
                                                                     75 mL
   Balance:
                                                                  1,565 mL
                                                                    218 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 410 (410 - 410) mL
   Vt (Spontaneous): 579 (579 - 579) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 7 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.47/34/74/24/1
   Ve: 16 L/min
   PaO2 / FiO2: 185
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   19 K/uL
   7.9 g/dL
   172 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.3 mEq/L
   27 mg/dL
   114 mEq/L
   145 mEq/L
   23.0 %
   3.2 K/uL
        [image002.jpg]
                            [**2130-12-14**]  08:43 PM
                            [**2130-12-14**]  09:45 PM
                            [**2130-12-15**]  04:05 AM
                            [**2130-12-15**]  04:15 AM
                            [**2130-12-15**]  09:30 PM
                            [**2130-12-16**]  03:00 AM
                            [**2130-12-16**]  03:33 AM
                            [**2130-12-16**]  03:53 PM
                            [**2130-12-17**]  03:10 AM
                            [**2130-12-17**]  03:30 AM
   WBC
   3.3
   3.4
   4.4
   3.2
   Hct
   23.4
   23.8
   25.4
   23.0
   Plt
   24
   25
   23
   19
   Cr
   0.9
   0.8
   0.8
   0.7
   TCO2
   25
   24
   23
   25
   23
   25
   Glucose
   161
   178
   193
   172
   Other labs: PT / PTT / INR:26.2/88.2/2.5, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:15/38, Alk Phos / T Bili:60/1.7, Amylase
   / Lipase:/9, Differential-Neuts:91.5 %, Lymph:5.0 %, Mono:3.5 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:4.2 g/dL, LDH:427 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Imaging: [**2130-12-16**] CXR:
   FINDINGS: Semi-upright portable chest x-ray is compared with [**12-14**],
   [**2130**]. The endotracheal tube terminates 2.6 cm above the carina. The
   left central venous catheter terminates at the atriocaval junction and
   the right central venous catheter terminates in the proximal SVC. There
   is worsening bilateral airspace opacification, especially within the
   left lung. There is continued low lung volume on the right.
   Microbiology: Urine culture w/ possible enterococcus from [**2130-12-8**]
   All other sputum, BAL, peritoneal, stool, blood cultures and tests
   negative
   Assessment and Plan
   58 yo male with esophageal CA in remission and hepatitis C returning to
   the ICU with new hypoxic respiratory failure that has developed in the
   last 12 hours.
   .
   # Respiratory failure: BNP 743 and echo normal, CTA negative, rapidly
   evolving CXRs, appears to be septic from likely pulmonary source.  His
   respiratory status has improved slightly but he remains ventilator
   dependent on assist control.  He has new, extensive ground-glass
   opacities on CT scan suggestive of atypical pneumonia, which we are
   covering with Vanc/Meropenem/Cipro vs. ARDS.  Flu negative. Checked
   rheumatoid factor and cryocrit for possible pulmonary hemorrhage from
   cryoglobulinemia given history of Hep C. These were both negative.
   - passed RSBI this morning, failed SBT.  Keep intubated until resp
   issues improve
   - Continue Vanc/Meropenem/Cipro (day [**8-1**]); extend course for 3 more
   days
   - Continue nebulizers and Mucinex PRN.
   - Treat abdominal issues as below
   .
   # Colonic distension: Patient
s abdomen is distended though not tense.
   KUB was concerning for dramatically distended colon.  C-diff negative
   X3.  Partially improved with rectal tube placement.  Seen by surgery,
   felt he was too high risk to even consider OR (estimated 80%
   mortality).  CT scan w/ contrast confirmed no anatomic obstruction.
   Decompressed by GI.   KUB improved
   - repeat KUB qday to assure no bowel dilation return
   - NPO for now
   - aggressive bowel regimen
   - neostigmine 2mg with 0.04glycopyrrolate
   .
   # Hypotension: His hypotension appears to have been from shock, which
   has improved.  Hypotension multifactorial from sepsis, adrenal
   insufficiency and liver disease.  He did not respond to a cortisol stim
   test [**12-8**], so we are giving fluticasone and hydrocortisone for adrenal
   insufficiency.  He does have likely d/t 3rd spacing in the setting of
   malnutrition, liver disease, and cancer.
   - ABx as above
   - fludricortisone 0.05 and hydrocortisone  50 for adrenal
   insufficiency; start to wean today
   - Albumin 1g/kg today (decided on 75 total)
   .
   #Hct drop: Dropped to 21.2 from 24 this morning.  Rechecked 4 hours
   later and was 23 has been steady at 23.  Is pancyotpenic.  Possible
   shock reaction, possibly from chemo or some primary bone marrow
   source.
   - q12 hour crit
   -<21
 transfusion
   .
   # Low UOP: Has improved with improving hemodynamics and creatinine is
   stable.  Was likely ischemia in the setting of hypotension from shock.
   .
   #: Anasarca/ Liver disease: Most likely d/t liver disease, although
   cannot r/o some cardiac involvement
   - hep recs leaving draining paracentesis site for now and hoping will
   close on own
   - Albumin 1g/kg today
   - lactulose for liver disease and bowel regimen
   .
   #: Esophageal CA: thought to be definitively treated with cisplatin and
   5-FU.
   - f/u whether Dr. [**Last Name (STitle) 1932**] has input.
   .
   #Access: L IJ, A line, chemo port and PIV.
   #FEN: replete electrolytes PRN, decrease tube feeds to 10 d/t bowel
   distension
   #Prophy: pneumoboots, heparin TID, type and screen; lactulose for bowel
   regimen
   #Code status: Full Code
   #Communication: Patient; brother is health care proxy
   #Dispo: pending clinical stability
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-12-16**] 07:39 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-12-17 10:27:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 year old with longstanding hep C. Recent esophageal ca thought to be
   in remission with chemo. Actually admitted with fatigue and hypotension
   that resolved.  Called out normotense and on room air, returned in
   3-pressor shock and PEEP 15 hypoxemic respiratory failure.  Probably
   [**Last Name (un) 5975**]
s, in addition to profound pulmonary infiltrates attributing to
   ARDS
   24 Hour Events:
   Given neostigmine yesterday.
   Failed SBT after 45 minutes (yesterday only 15 minutes).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2130-12-15**] 04:46 AM
   Meropenem - [**2130-12-17**] 04:23 AM
   Ciprofloxacin - [**2130-12-17**] 06:00 AM
   Vancomycin - [**2130-12-17**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-12-17**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-12-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-17**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 66 (60 - 92) bpm
   BP: 112/61(77) {98/52(66) - 134/69(92)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 79.8 kg
   Height: 68 Inch
   CVP: 8 (8 - 314)mmHg
   Total In:
                                                                  3,060 mL
                                                                  1,035 mL
   PO:
   TF:
                                                                    585 mL
                                                                    101 mL
   IVF:
                                                                  1,914 mL
                                                                    793 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,495 mL
                                                                    465 mL
   Urine:
                                                                  1,145 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
                                                                     75 mL
   Balance:
                                                                  1,565 mL
                                                                    570 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 410 (410 - 410) mL
   Vt (Spontaneous): 579 (579 - 579) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 7 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.47/34/74/24/1
   Ve: 16 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, left eye erythematous, inflamed but improved
   with emycin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, improved UE edema
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , hyperpigmented
   Neurologic: Responds to: Noxious stimuli, Movement: Purposeful
   (withdraws all extremities), Tone: Not assessed
   No drainage from paracentesis site yesterday.
   Labs / Radiology
   7.9 g/dL
   19 K/uL
   172 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.3 mEq/L
   27 mg/dL
   114 mEq/L
   145 mEq/L
   23.0 %
   3.2 K/uL
        [image002.jpg]
                            [**2130-12-14**]  08:43 PM
                            [**2130-12-14**]  09:45 PM
                            [**2130-12-15**]  04:05 AM
                            [**2130-12-15**]  04:15 AM
                            [**2130-12-15**]  09:30 PM
                            [**2130-12-16**]  03:00 AM
                            [**2130-12-16**]  03:33 AM
                            [**2130-12-16**]  03:53 PM
                            [**2130-12-17**]  03:10 AM
                            [**2130-12-17**]  03:30 AM
   WBC
   3.3
   3.4
   4.4
   3.2
   Hct
   23.4
   23.8
   25.4
   23.0
   Plt
   24
   25
   23
   19
   Cr
   0.9
   0.8
   0.8
   0.7
   TCO2
   25
   24
   23
   25
   23
   25
   Glucose
   161
   178
   193
   172
   Other labs: PT / PTT / INR:26.2/88.2/2.5, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:15/38, Alk Phos / T Bili:60/1.7, Amylase
   / Lipase:/9, Differential-Neuts:91.5 %, Lymph:5.0 %, Mono:3.5 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:4.2 g/dL, LDH:427 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: persistent pancytopenia (unchanged from
   yesterday) and from reviewing records, all cell lines have been reduced
   in the past.
   Microbiology: Urine cx [**12-8**] enterococcus.
   Assessment and Plan
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES
   58 year old with longstanding hep C. Recent esophageal ca thought to be
   in remission with chemo. Actually admitted with fatigue and hypotension
   that resolved.  Called out normotense and on room air, returned in
   3-pressor shock and PEEP 15 hypoxemic respiratory failure.  Probably
   [**Last Name (un) 5975**]
s, in addition to profound pulmonary infiltrates attributing to
   ARDS
   Issues:
          Hypoxemic respiratory failure / ARDS
 improving, now on PSV
          Septic shock
 improved
          D [**8-4**] vanc/meropenem/cipro for PNA, SBP, possible
   intraabdom source of initial septic shock
          Cirrhosis
          Encephalopathy (missed days of lactulose)
          Anasarca
          auto-paracentesing through a para site from I.R.  Loses
   liters per day through that, so receives albumin daily
          Coagulopathy
          Adrenal insufficiency
          [**Last Name (un) 5975**]
s syndrome (most likely)
          Pancytopenia- chemo, sepsis
   Vent: maintain current settings. Sedation now at fent 50/h and prop
   30/h. Trying to minimize sedation but failed SBT. Will continue full
   support and reattempt SBT in AM
   Wean hydrocortisone.
   Continue neostigmine for [**Last Name (un) **]
   Tube feeds- increase rate
   PRBC tx today, no albumin.
   Will need therapeutic paracentesis, not urgently.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-12-16**] 07:39 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments: Communication with his
   brother, HCP. Dr [**Last Name (STitle) 3288**] met with family yesterday.
   Code status: Full code
   Disposition :ICU
   Total time spent:

2130-12-18 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Passed RSBI's (34) but tachypneic on SBT this am
   - Going to continue Vanc/[**Last Name (un) 1540**]/Cipro for 3 more days for full 10d course
   bc he is still intubated
   - Keep sedation as is for today, leave PEEP at 5, keep FiO2 at 40% and
   check later, and repeat SBT tomorrow
   - Wean Hydrocortisone to 50 IV q6 and Fludrocort to 0.05mg PO daily
   - Give 1U PRBC's
   - Needs therapeutic tap today or tomorrow (before extubation)
   - Increase TF's to goal of 40cc/hr
   - Now on CPAP with repeat gas 7.48/32/105/25
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-12-17**] 08:06 PM
   Meropenem - [**2130-12-18**] 04:02 AM
   Ciprofloxacin - [**2130-12-18**] 05:49 AM
   Infusions:
   Fentanyl (Concentrate) - 40 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-17**] 04:00 PM
   Famotidine (Pepcid) - [**2130-12-17**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-18**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 73 (58 - 82) bpm
   BP: 131/72(93) {90/48(61) - 146/79(105)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 79.8 kg
   Height: 68 Inch
    CVP: 7 (4 - 7)mmHg
   Total In:
                                                                  2,759 mL
                                                                    662 mL
   PO:
   TF:
                                                                    361 mL
                                                                    219 mL
   IVF:
                                                                  1,828 mL
                                                                    443 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,185 mL
                                                                    530 mL
   Urine:
                                                                    910 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
                                                                    275 mL
                                                                    325 mL
   Balance:
                                                                  1,574 mL
                                                                    132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 410 (410 - 410) mL
   Vt (Spontaneous): 598 (523 - 598) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 19 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.49/30/98.[**Numeric Identifier 500**]/22/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   24 K/uL
   10.9 g/dL
   201 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   33 mg/dL
   114 mEq/L
   144 mEq/L
   32.7 %
   5.9 K/uL
        [image002.jpg]
                            [**2130-12-16**]  03:00 AM
                            [**2130-12-16**]  03:33 AM
                            [**2130-12-16**]  03:53 PM
                            [**2130-12-17**]  03:10 AM
                            [**2130-12-17**]  03:30 AM
                            [**2130-12-17**]  05:35 PM
                            [**2130-12-17**]  10:14 PM
                            [**2130-12-17**]  10:27 PM
                            [**2130-12-18**]  03:11 AM
                            [**2130-12-18**]  03:33 AM
   WBC
   3.4
   4.4
   3.2
   5.9
   Hct
   23.8
   25.4
   23.0
   32.6
   32.7
   Plt
   25
   23
   19
   24
   Cr
   0.8
   0.8
   0.7
   0.7
   TCO2
   23
   25
   24
   25
   23
   Glucose
   178
   193
   172
   201
   Other labs: PT / PTT / INR:25.1/53.3/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:19/43, Alk Phos / T Bili:65/2.4, Amylase
   / Lipase:/9, Differential-Neuts:91.5 %, Lymph:5.0 %, Mono:3.5 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:4.2 g/dL, LDH:427 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Imaging: [**12-17**] Abd: R colon up to 6.7cm
   [**12-18**] CXR: improvement on right, persistent opacity on left.
   Microbiology: none since [**12-14**], grossly negative to date.
   Assessment and Plan
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES
   58 yo male with esophageal CA in remission and hepatitis C returning to
   the ICU with new hypoxic respiratory failure that has developed in the
   last 12 hours.
   .
   # Respiratory failure: Keep intubated this morning until after
   paracentesis.  Should improve pleural effusion and abdominal
   distention, then hopefully allow for extubation.
   BNP 743 and echo normal, CTA negative, rapidly evolving CXRs, appears
   to be septic from likely pulmonary source.  His respiratory status has
   improved slightly but he remains ventilator dependent on assist
   control.  He has new, extensive ground-glass opacities on CT scan
   suggestive of atypical pneumonia vs ARDS, which we are covering with
   Vanc/Meropenem/Cipro.  Flu negative. Checked rheumatoid factor and
   cryocrit for possible pulmonary hemorrhage from cryoglobulinemia given
   history of Hep C. These were both negative.
   - passed RSBI this morning, failed SBT due to tachypnea.  Keep
   intubated until resp issues improve
   - Continue Vanc/Meropenem/Cipro (day [**8-1**]); extend course for 3 more
   days while still critical
   - Sedation on propofol 30 and fentanyl 50 as is
   - Continue nebulizers and Mucinex PRN.
   - Treat abdominal issues as below
   .
   # Abdominal distension: Patient
s abdomen is distended though not
   tense.  KUB was concerning for dramatically distended colon.  C-diff
   negative X3.  Partially improved with rectal tube placement.  Seen by
   surgery, felt he was too high risk to even consider OR (estimated 80%
   mortality).  CT scan w/ contrast confirmed no anatomic obstruction.
   Decompressed by GI.   KUB improved.  Serial KUB do not show
   reappearance of distention. Neostigmine 2mg with 0.04glycopyrrolate
   given with no large BM or change in distention
   - therapeutic distention
   - return tube feeds to normal rate gradually
   - aggressive bowel regimen with lactulose
   .
   # Hypotension: wean steroids.
   His hypotension appears to have been from shock, which has improved.
   Hypotension multifactorial from sepsis, adrenal insufficiency and liver
   disease.  He did not respond to a cortisol stim test [**12-8**], so we are
   giving fluticasone and hydrocortisone for adrenal insufficiency.  He
   does have likely d/t 3rd spacing in the setting of malnutrition, liver
   disease, and cancer.
   - ABx as above
   - fludricortisone 0.05 and hydrocortisone  50mg q6 for adrenal
   insufficiency, continue to wean daily
   - Blood today for volume and cytopenia
   .
   #Hct drop: Has been steady at 23 >48hours.  Is pancyotpenic.  Possible
   shock reaction, possibly from chemo or some primary bone marrow
   source.
   - q12 hour crit
   -<21 for transfusion
   .
   # Low UOP: Has improved with improving hemodynamics and creatinine is
   stable.  Was likely ischemia in the setting of hypotension from shock.
   .
   #: Anasarca/ Liver disease: Most likely d/t liver disease, although
   cannot r/o some cardiac involvement
   - hep recs leaving draining paracentesis site for now and hoping will
   close on own
   - Albumin 1g/kg today tomorrow possibly.  1 u PRBC today
   - lactulose for liver disease and bowel regimen
   .
   #: Esophageal CA: thought to be definitively treated with cisplatin and
   5-FU.
   - f/u whether Dr. [**Last Name (STitle) 1932**] has input.
   .
   #Access: L IJ, A line, chemo port and PIV.
   #FEN: replete electrolytes PRN, Nutren pulmonary tube feeds
   #Prophy: pneumoboots, heparin TID, type and screen; lactulose for bowel
   regimen
   #Code status: Full Code
   #Communication: Patient; brother is health care proxy
   #Dispo: pending clinical stability

2130-12-18 13:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58  yo man with hep C, esophageal CA, admitted with fatigue and HOTN,
   originally came to MICU, went to floor and returned with 3 pressor
   shock.  Has slowly improved - evidence of Oglivie's, and ARDS.
   Yesterday had good RSBI, but failed SBT.  Has also had evidence of
   adrenal dysfunction.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-12-17**] 08:06 PM
   Ciprofloxacin - [**2130-12-18**] 05:49 AM
   Meropenem - [**2130-12-18**] 10:00 AM
   Infusions:
   Fentanyl (Concentrate) - 40 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-12-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-12-18**] 08:00 AM
   Other medications:
   mexilitiine
   vanco
   folate
   cipro
   s/q heparin
   chlorhex
   lactulose
   hydrocort/fludricort
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-18**] 01:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 84 (67 - 84) bpm
   BP: 132/73(94) {110/60(77) - 146/79(105)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 79.8 kg
   Height: 68 Inch
   CVP: 7 (4 - 7)mmHg
   Total In:
                                                                  2,759 mL
                                                                  1,262 mL
   PO:
   TF:
                                                                    361 mL
                                                                    465 mL
   IVF:
                                                                  1,828 mL
                                                                    716 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,185 mL
                                                                    770 mL
   Urine:
                                                                    910 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
                                                                    275 mL
                                                                    325 mL
   Balance:
                                                                  1,574 mL
                                                                    492 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 410 (410 - 410) mL
   Vt (Spontaneous): 440 (440 - 598) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.49/30/98.[**Numeric Identifier 500**]/22/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   24 K/uL
   201 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   33 mg/dL
   114 mEq/L
   144 mEq/L
   32.7 %
   5.9 K/uL
        [image002.jpg]
                            [**2130-12-16**]  03:00 AM
                            [**2130-12-16**]  03:33 AM
                            [**2130-12-16**]  03:53 PM
                            [**2130-12-17**]  03:10 AM
                            [**2130-12-17**]  03:30 AM
                            [**2130-12-17**]  05:35 PM
                            [**2130-12-17**]  10:14 PM
                            [**2130-12-17**]  10:27 PM
                            [**2130-12-18**]  03:11 AM
                            [**2130-12-18**]  03:33 AM
   WBC
   3.4
   4.4
   3.2
   5.9
   Hct
   23.8
   25.4
   23.0
   32.6
   32.7
   Plt
   25
   23
   19
   24
   Cr
   0.8
   0.8
   0.7
   0.7
   TCO2
   23
   25
   24
   25
   23
   Glucose
   178
   193
   172
   201
   Other labs: PT / PTT / INR:25.1/53.3/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:19/43, Alk Phos / T Bili:65/2.4, Amylase
   / Lipase:/9, Differential-Neuts:91.5 %, Lymph:5.0 %, Mono:3.5 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:4.2 g/dL, LDH:427 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES
   Respiratory failure:  on PSV 10/8, breathing comfortably.  Can try SBT
   today.
   PNA:  Has completed course of antibiotics, can stop.
   Cirrhosis:  Continue Cipro for SBP prophylaxis.  Will due paracentesis
   to optimize abdominal pressures.  Albumin after paracentesis.
   Oglvie's syndrome:  Has been passing stool, so may not be continuing
   issue.
   HOTN:  Continue to wean steroids.  Stop fludricort and reduce hydrocort
   dose.
   Esophageal cancer:  felt to be cured.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-12-18**] 08:02 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-12-19 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
 PARACENTESIS - At [**2130-12-18**] 03:00 PM
   - Stopped antbiotics
   - Paracentesis drained 3.75L.  Given 50mg albumin afterwards. Fluid w/o
   SBP.
   - On SBT without sedation was breathing well but not following
   commands, just ? turning head to voice.  Sedation restarted.  Vent
   eventually at just [**5-30**] of pressure support.
   - Given one time dose of seroquel 25mg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-12-17**] 08:06 PM
   Ciprofloxacin - [**2130-12-18**] 05:49 AM
   Meropenem - [**2130-12-18**] 10:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-18**] 04:00 PM
   Famotidine (Pepcid) - [**2130-12-18**] 08:00 PM
   Fentanyl - [**2130-12-19**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-19**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 75 (70 - 114) bpm
   BP: 151/72(99) {113/62(79) - 159/79(107)} mmHg
   RR: 21 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.5 kg (admission): 79.8 kg
   Height: 68 Inch
    CVP: -3 (-6 - 359)mmHg
   Total In:
                                                                  1,905 mL
                                                                    191 mL
   PO:
   TF:
                                                                    534 mL
   IVF:
                                                                    921 mL
                                                                    101 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  5,040 mL
                                                                    232 mL
   Urine:
                                                                    965 mL
                                                                    232 mL
   NG:
   Stool:
   Drains:
                                                                  4,075 mL
   Balance:
                                                                 -3,135 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 480 (440 - 660) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.50/32/117/24/2
   Ve: 13.7 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   19 K/uL
   9.9 g/dL
   173 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   37 mg/dL
   117 mEq/L
   148 mEq/L
   30.2 %
   4.0 K/uL
        [image002.jpg]
                            [**2130-12-17**]  03:30 AM
                            [**2130-12-17**]  05:35 PM
                            [**2130-12-17**]  10:14 PM
                            [**2130-12-17**]  10:27 PM
                            [**2130-12-18**]  03:11 AM
                            [**2130-12-18**]  03:33 AM
                            [**2130-12-18**]  08:52 PM
                            [**2130-12-19**]  02:58 AM
                            [**2130-12-19**]  03:16 AM
                            [**2130-12-19**]  07:01 AM
   WBC
   5.9
   4.0
   Hct
   32.6
   32.7
   30.2
   Plt
   24
   19
   Cr
   0.7
   0.8
   TCO2
   25
   24
   25
   23
   25
   23
   26
   Glucose
   201
   173
   Other labs: PT / PTT / INR:25.3/68.5/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:23/50, Alk Phos / T Bili:60/2.4, Amylase
   / Lipase:/9, Differential-Neuts:90.0 %, Lymph:4.0 %, Mono:5.3 %,
   Eos:0.6 %, Lactic Acid:1.8 mmol/L, Albumin:3.9 g/dL, LDH:427 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs:  ASCITES ANALYSIS
   WBC: 10 RBC: 139 Polys: 22 Lymphs: 21 Mono: 0.3  Macroph: 54
   Microbiology: [**2130-12-18**] 3:38 pm PERITONEAL FLUID
      GRAM STAIN (Final [**2130-12-18**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   58 yo male with esophageal CA in remission and hepatitis C returning to
   the ICU with new hypoxic respiratory failure that has developed in the
   last 12 hours.
   .
   # Respiratory failure: Plan is to keep intubated this morning until
   after paracentesis.  Should improve pleural effusion and abdominal
   distention, then hopefully allow for extubation.   He had extensive
   ground-glass opacities on CT scan suggestive of atypical pneumonia vs
   ARDS, which we are covered with Vanc/Meropenem/Cipro.  Flu negative.
   Checked rheumatoid factor and cryocrit for possible pulmonary
   hemorrhage from cryoglobulinemia given history of Hep C. These were
   both negative.
   BNP 743 and echo normal, CTA negative.  Paracentesis yesterday.
   - stopped antibiotics as he had completed a course.
   - Sedation on propofol 30 and fentanyl 50 as is
   - Continue nebulizers and Mucinex PRN.
   - Treat abdominal issues as below
   .
   # Abdominal distension: Patient
s abdomen is distended though not
   tense.  CT scan w/ contrast confirmed no anatomic obstruction, meaning
   that he has [**Last Name (un) 5975**]
s syndrome.  Decompressed colonoscopically by GI.
   KUB improved, but then worsened again.  On Saturday, Neostigmine 2mg
   with 0.04glycopyrrolate given with no large BM or change in distention
   Therapeutic paracentesis yesterday.
   - aggressive bowel regimen with lactulose
   .
   # Hypotension: wean steroids.   Hypotension multifactorial from sepsis,
   adrenal insufficiency and liver disease.  He did not respond to a
   cortisol stim test [**12-8**], so we are giving fluticasone and
   hydrocortisone for adrenal insufficiency.  He does have likely d/t 3rd
   spacing in the setting of malnutrition, liver disease, and cancer.
   Weaned steroids.
   - hydrocortisone  25mg q6 for adrenal insufficiency, continue to wean
   daily
   .
   #Hct drop: Has been steady at 23 >48hours.  Is pancyotpenic.  Possible
   shock reaction, possibly from chemo or some primary bone marrow
   source.
   - q12 hour crit
   -<21 for transfusion
   .
   # Low UOP: Has improved with improving hemodynamics and creatinine is
   stable.  Was likely ischemia in the setting of hypotension from shock.
   .
   #: Anasarca/ Liver disease: Most likely d/t liver disease, although
   cannot r/o some cardiac involvement
   - hep recs leaving draining paracentesis site for now and hoping will
   close on own
   - Albumin 1g/kg today
   - lactulose for liver disease and bowel regimen
   .
   #: Esophageal CA: thought to be definitively treated with cisplatin and
   5-FU.
   - f/u whether Dr. [**Last Name (STitle) 1932**] has input.
   .
   #Access: L IJ, A line, chemo port and PIV.
   #FEN: replete electrolytes PRN, Nutren pulmonary tube feeds
   #Prophy: pneumoboots, heparin TID, type and screen; lactulose for bowel
   regimen
   #Code status: Full Code
   #Communication: Patient; brother is health care proxy
   #Dispo: pending clinical stability

2130-12-19 10:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with longstanding HCV cirrhosis, admitted with respiratory
   failure/ARDS due to unclear cause and sepsis.  Has been off pressors
   and did well on SBT this mornning.
   24 Hour Events:
 PARACENTESIS - At [**2130-12-18**] 03:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-12-17**] 08:06 PM
   Ciprofloxacin - [**2130-12-18**] 05:49 AM
   Meropenem - [**2130-12-18**] 10:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-12-18**] 08:00 PM
   Fentanyl - [**2130-12-19**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-12-19**] 08:15 AM
   Other medications:
   mexilitine
   folate
   hep tid
   famotidine
   hydrocort 25 q6h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-19**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 77 (71 - 114) bpm
   BP: 151/74(101) {114/62(79) - 159/79(107)} mmHg
   RR: 22 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.5 kg (admission): 79.8 kg
   Height: 68 Inch
   CVP: -3 (-6 - 359)mmHg
   Total In:
                                                                  1,905 mL
                                                                    247 mL
   PO:
   TF:
                                                                    534 mL
   IVF:
                                                                    921 mL
                                                                    112 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  5,040 mL
                                                                    402 mL
   Urine:
                                                                    965 mL
                                                                    402 mL
   NG:
   Stool:
   Drains:
                                                                  4,075 mL
   Balance:
                                                                 -3,135 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (440 - 660) mL
   PS : 8 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.50/32/117/24/2
   Ve: 12.2 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, follows some commands
   Labs / Radiology
   9.9 g/dL
   19 K/uL
   173 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   37 mg/dL
   117 mEq/L
   148 mEq/L
   30.2 %
   4.0 K/uL
        [image002.jpg]
                            [**2130-12-17**]  03:30 AM
                            [**2130-12-17**]  05:35 PM
                            [**2130-12-17**]  10:14 PM
                            [**2130-12-17**]  10:27 PM
                            [**2130-12-18**]  03:11 AM
                            [**2130-12-18**]  03:33 AM
                            [**2130-12-18**]  08:52 PM
                            [**2130-12-19**]  02:58 AM
                            [**2130-12-19**]  03:16 AM
                            [**2130-12-19**]  07:01 AM
   WBC
   5.9
   4.0
   Hct
   32.6
   32.7
   30.2
   Plt
   24
   19
   Cr
   0.7
   0.8
   TCO2
   25
   24
   25
   23
   25
   23
   26
   Glucose
   201
   173
   Other labs: PT / PTT / INR:25.3/68.5/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:23/50, Alk Phos / T Bili:60/2.4, Amylase
   / Lipase:/9, Differential-Neuts:90.0 %, Lymph:4.0 %, Mono:5.3 %,
   Eos:0.6 %, Lactic Acid:1.8 mmol/L, Albumin:3.9 g/dL, LDH:427 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES:  Cipro for SBP prophylaxis
   Respiratory failure:  looks good on SBT.  Will try and extubated today.
   MS:  is more awake, tracking, follows some commands.
   Renal failure:  adequate urine output currently.
   hypernatremia:  will give some free water through G tube.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-12-20 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: End-stage liver disease
   24 Hour Events:
   - Extubated
   - Cipro for SBP prophylaxis
   - Free H20 flushes
   - 3pm Na: 150; will repeat again in evening
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-12-17**] 08:06 PM
   Ciprofloxacin - [**2130-12-18**] 05:49 AM
   Meropenem - [**2130-12-18**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-20**] 12:39 AM
   Furosemide (Lasix) - [**2130-12-20**] 12:39 AM
   Morphine Sulfate - [**2130-12-20**] 04:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-20**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 70 (65 - 100) bpm
   BP: 139/69(95) {139/67(90) - 162/81(221)} mmHg
   RR: 20 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.5 kg (admission): 79.8 kg
   Height: 68 Inch
    CVP: -15 (-16 - 4)mmHg
   Total In:
                                                                  1,156 mL
                                                                    748 mL
   PO:
   TF:
                                                                     82 mL
   IVF:
                                                                    181 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  1,562 mL
                                                                  1,585 mL
   Urine:
                                                                    942 mL
                                                                  1,585 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
                                                                    120 mL
   Balance:
                                                                   -406 mL
                                                                   -837 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 660 (470 - 660) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.53/30/157/23/3
   Ve: 13.2 L/min
   PaO2 / FiO2: 157
   Physical Examination
   Gen: alert, oriented to self, and place, following commands. Skin
   hyperpigmented; no noticeable rash
   Eyes: icteric, L eye swollen and erythematous
   Chest: Coarse rhonchi throughout
   Heart: difficult to auscultate, apparently normal S1/S2
   Abdomen: Distended but soft, +BS
   Ext: 3+ edema; warm w/ somewhat mottled appearance of lower
   extremities.
   Labs / Radiology
   23 K/uL
   10.9 g/dL
   153 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.2 mEq/L
   41 mg/dL
   115 mEq/L
   149 mEq/L
   32.5 %
   8.4 K/uL
        [image002.jpg]
                            [**2130-12-18**]  03:33 AM
                            [**2130-12-18**]  08:52 PM
                            [**2130-12-19**]  02:58 AM
                            [**2130-12-19**]  03:16 AM
                            [**2130-12-19**]  07:01 AM
                            [**2130-12-19**]  03:54 PM
                            [**2130-12-19**]  04:05 PM
                            [**2130-12-20**]  12:18 AM
                            [**2130-12-20**]  02:53 AM
                            [**2130-12-20**]  03:05 AM
   WBC
   4.0
   8.4
   Hct
   30.2
   30.3
   32.5
   Plt
   19
   23
   Cr
   0.8
   0.7
   TCO2
   23
   25
   23
   26
   24
   23
   26
   Glucose
   173
   153
   Other labs: PT / PTT / INR:25.3/68.5/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:23/50, Alk Phos / T Bili:60/2.6, Amylase
   / Lipase:/9, Differential-Neuts:90.0 %, Lymph:4.0 %, Mono:5.3 %,
   Eos:0.6 %, Lactic Acid:1.8 mmol/L, Albumin:3.9 g/dL, LDH:427 IU/L,
   Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs:
   Cytology per Dr. [**Last Name (STitle) 1932**]: the patient does not have any evidence of
   progressive esophageal cancer.
   Imaging:
   [**12-18**] CXR: Interval improvement in GGO, either edema or hemorrhage.
   [**12-20**] CXR: Improved. Persistent opacities on left.
   Microbiology: All negative to date, except equivocal [**12-8**] urine.
   Assessment and Plan
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES
   58 y/o male with Esophageal CA in remission and hepatitis C returning
   to the ICU with new hypoxic respiratory failure that had developed in
   the last 12 hours.
   .
   # Respiratory failure: Has now been extubated 24 hrs.  Improving CXR
   but with coarse central airways sounds.   He had extensive ground-glass
   opacities on CT scan suggestive of atypical pneumonia vs ARDS, which
   had covered with Vanc/Meropenem/Cipro.  Flu negative. Checked
   rheumatoid factor and cryocrit for possible pulmonary hemorrhage from
   cryoglobulinemia given history of Hep C. These were both negative. BNP
   743 and echo normal, CTA negative.  S/p paracentesis on [**12-17**].
   Extubated on [**12-18**]. Currently tachypneic and alkalemic.
   - Got lasix 20mg yesterday which made him only -400cc
s for the day w/o
   affecting his creatinine. Plan today for: lasix bolus, start with a
   20mg bolus now.
   - Stopped antibiotics as he had completed a full course, afebrile.
   - Sedation weaned
   - Continue nebulizers and Mucinex PRN.
   - Treat abdominal issues as below
   .
   # Abdominal distension: Patient
s abdomen is distended though not
   tense.  CT scan w/ contrast confirmed no anatomic obstruction, meaning
   that he has [**Last Name (un) 5975**]
s syndrome.  Decompressed colonoscopically by GI.
   KUB improved, but then worsened again.  On [**12-16**], Neostigmine 2mg with
   0.04glycopyrrolate given with no large BM or change in distention.
   Improved, he is now having BM
   - Aggressive bowel regimen with lactulose
   - Discontinue Cipro prophylaxis.
   .
   # Hypotension (corrected): wean steroids.   Hypotension multifactorial
   from sepsis, adrenal insufficiency and liver disease.  He did not
   respond to a cortisol stim test [**12-8**], so we are giving fluticasone and
   hydrocortisone for adrenal insufficiency.  He does have likely d/t 3rd
   spacing in the setting of malnutrition, liver disease, and cancer.
   Weaned steroids.
   - Previously on hydrocortisone 25mg q6 for adrenal insufficiency, wean
   to 12.5mg q6h today. Continue to wean, plan to likely d/c tomorrow.
   .
   #Hct drop: s/p blood transfusion 2 days ago.  Has improved and been
   stable. Is pancytopenic.  Possible shock reaction, possibly from chemo
   or questionable primary bone marrow source.
   - q12 hour Hct checks
   - Transfuse for Hct <21
   .
   #: Anasarca/ Liver disease: Most likely d/t liver disease, although
   cannot r/o some cardiac involvement. S/p paracentesis on [**12-17**].
   - Hepaotology recommends leaving draining paracentesis site for now and
   hoping will close on own
   - Start Cipro 250 daily for prophylaxis because drain from paracentesis
   is still in
   - Lactulose for liver disease and bowel regimen
   .
   #: Esophageal CA: thought to be definitively treated with cisplatin and
   5-FU.
   - Esophageal cancer not involved per Dr. [**Last Name (STitle) 1932**].
   .
   #Access: L IJ, A line (to be pulled), chemo port and PIV.
   #FEN: replete electrolytes PRN, Nutren pulmonary tube feeds, (patient
   without gag reflex)
   #Prophylaxis: pneumoboots, heparin TID, type and screen; lactulose for
   bowel regimen
   #Code status: Full Code
   #Communication: Patient. Brother is health care proxy
   #Dispo: pending clinical stability.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2130-12-20**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
 plan to pull today as arm looks
   poorly (first get ABG and VBG to correlate them)
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-12-20 12:08:00 Physician Attending Progress Note
Chief Complaint: shock and respiratory failure.0.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with HCV cirrhosis.  Admitted originally for weakness and
   SOB.  c/b shock and respiratory failure, unclear cause.  But much
   improved now.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-12-17**] 08:06 PM
   Ciprofloxacin - [**2130-12-18**] 05:49 AM
   Meropenem - [**2130-12-18**] 10:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-12-20**] 12:39 AM
   Morphine Sulfate - [**2130-12-20**] 04:58 AM
   Famotidine (Pepcid) - [**2130-12-20**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2130-12-20**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-20**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 86 (65 - 96) bpm
   BP: 155/90(112) {139/67(90) - 162/90(221)} mmHg
   RR: 27 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.5 kg (admission): 79.8 kg
   Height: 68 Inch
   CVP: -15 (-16 - 4)mmHg
   Total In:
                                                                  1,156 mL
                                                                  1,314 mL
   PO:
   TF:
                                                                    175 mL
   IVF:
                                                                    181 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  1,562 mL
                                                                  1,715 mL
   Urine:
                                                                    942 mL
                                                                  1,715 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
                                                                    120 mL
   Balance:
                                                                   -406 mL
                                                                   -401 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.53/30/157/23/3
   PaO2 / FiO2: 157
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: especially right
   base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   23 K/uL
   153 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.2 mEq/L
   41 mg/dL
   115 mEq/L
   149 mEq/L
   32.5 %
   8.4 K/uL
        [image002.jpg]
                            [**2130-12-18**]  03:33 AM
                            [**2130-12-18**]  08:52 PM
                            [**2130-12-19**]  02:58 AM
                            [**2130-12-19**]  03:16 AM
                            [**2130-12-19**]  07:01 AM
                            [**2130-12-19**]  03:54 PM
                            [**2130-12-19**]  04:05 PM
                            [**2130-12-20**]  12:18 AM
                            [**2130-12-20**]  02:53 AM
                            [**2130-12-20**]  03:05 AM
   WBC
   4.0
   8.4
   Hct
   30.2
   30.3
   32.5
   Plt
   19
   23
   Cr
   0.8
   0.7
   TCO2
   23
   25
   23
   26
   24
   23
   26
   Glucose
   173
   153
   Other labs: PT / PTT / INR:25.3/68.5/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:23/50, Alk Phos / T Bili:60/2.6, Amylase
   / Lipase:/9, Differential-Neuts:90.0 %, Lymph:4.0 %, Mono:5.3 %,
   Eos:0.6 %, Lactic Acid:1.8 mmol/L, Albumin:3.9 g/dL, LDH:427 IU/L,
   Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES
   Still in mild respiratory distress but is improved.  Will diurese with
   lasix.
   Wean steroids to off.
   cirrhosis:  continue lactulose and rifaxamin.
   continue TFs
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2130-12-20**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Arterial Line - [**2130-12-10**] 09:04 PM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-12-21 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2130-12-20**] 03:43 PM
   - Lasix 20mg IV at noon, then f/u UOP through day:
   - Abd distention and pain in the evening --> not an acute abdomen, but
   pain to palpation, distended. Repeat KUB --> Per rads, air in the
   stomach but not in the bowels. Nursing pulled out several hundred cc's
   of air. Given low dose of Morphine. Given Simethicone. Heard growling
   stomach (hunger pains?), so restarted TF's.
   - Desat to 80's with lots of pulm hygeine --> no gag, can't cough
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2130-12-18**] 10:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-12-20**] 06:08 PM
   Morphine Sulfate - [**2130-12-20**] 06:54 PM
   Famotidine (Pepcid) - [**2130-12-20**] 07:51 PM
   Heparin Sodium (Prophylaxis) - [**2130-12-21**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-21**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 86 (70 - 103) bpm
   BP: 120/74(85) {106/19(40) - 146/87(97)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.5 kg (admission): 79.8 kg
   Height: 68 Inch
             Total In:
                                                                  2,554 mL
                                                                    712 mL
   PO:
             TF:
                                                                    386 mL
                                                                     63 mL
   IVF:
                                                                    588 mL
                                                                    599 mL
   Blood products:
   Total out:
                                                                  4,055 mL
                                                                  1,120 mL
   Urine:
                                                                  3,680 mL
                                                                    370 mL
   NG:
   Stool:
                                                                    300 mL
                                                                    425 mL
   Drains:
                                                                     75 mL
                                                                    325 mL
   Balance:
                                                                 -1,501 mL
                                                                   -408 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: 7.51/29/84.[**Numeric Identifier 1132**]/26/0
   PaO2 / FiO2: 210
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   21 K/uL
   10.9 g/dL
   145 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.4 mEq/L
   44 mg/dL
   117 mEq/L
   152 mEq/L
   32.8 %
   10.5 K/uL
        [image002.jpg]
                            [**2130-12-19**]  03:16 AM
                            [**2130-12-19**]  07:01 AM
                            [**2130-12-19**]  03:54 PM
                            [**2130-12-19**]  04:05 PM
                            [**2130-12-20**]  12:18 AM
                            [**2130-12-20**]  02:53 AM
                            [**2130-12-20**]  03:05 AM
                            [**2130-12-20**]  01:45 PM
                            [**2130-12-20**]  07:34 PM
                            [**2130-12-21**]  02:37 AM
   WBC
   8.4
   10.5
   Hct
   30.3
   32.5
   32.8
   Plt
   23
   21
   Cr
   0.7
   0.7
   0.7
   TCO2
   23
   26
   24
   23
   26
   24
   Glucose
   153
   188
   145
   Other labs: PT / PTT / INR:24.8/40.5/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:28/47, Alk Phos / T Bili:74/3.3, Amylase
   / Lipase:/9, Differential-Neuts:90.0 %, Lymph:4.0 %, Mono:5.3 %,
   Eos:0.6 %, Lactic Acid:1.8 mmol/L, Albumin:3.9 g/dL, LDH:427 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: Adominal Xray [**2130-12-20**]
   No dilated loops of bowel. Air filled stomach. no free air seen beneath
   diaphragms, although left lateral aspect of film excluded from view.
   CXR [**2130-12-20**]
   IMPRESSION: Interval improvement in mild-to-moderate pulmonary edema.
   Assessment and Plan
   58 y/o male with Esophageal CA in remission and hepatitis C returning
   to the ICU with new hypoxic respiratory failure that had developed in
   the last 12 hours.
   .
   # Respiratory failure: Has now been extubated >24 hrs.  Improving CXR
   but with coarse central airways sounds.   He had extensive ground-glass
   opacities on CT scan suggestive of atypical pneumonia vs ARDS, which
   had covered with Vanc/Meropenem/Cipro.  Flu negative. Checked
   rheumatoid factor and cryocrit for possible pulmonary hemorrhage from
   cryoglobulinemia given history of Hep C. These were both negative. BNP
   743 and echo normal, CTA negative.  S/p paracentesis on [**12-17**].
   Extubated on [**12-18**]. Currently tachypneic and alkalemic.
   - Lasix bolus to improve UOP
   - Stopped antibiotics as he had completed a full course, afebrile.
   - Continue nebulizers and Mucinex PRN.
   - Treat abdominal issues as below
   .
   # Abdominal distension: Patient
s abdomen is distended though not
   tense.  CT scan w/ contrast confirmed no anatomic obstruction, meaning
   that he has [**Last Name (un) 5975**]
s syndrome.  Decompressed colonoscopically by GI.
   KUB improved, but then worsened again.  On [**12-16**], Neostigmine 2mg with
   0.04glycopyrrolate given with no large BM or change in distention.
   Improved, he is now having BM
   - Aggressive bowel regimen with lactulose
   - Discontinued Cipro prophylaxis?
   .
   # Hypotension (corrected): wean steroids.   Hypotension multifactorial
   from sepsis, adrenal insufficiency and liver disease.  He did not
   respond to a cortisol stim test [**12-8**], so we are giving fluticasone and
   hydrocortisone for adrenal insufficiency.  He does have likely  3rd
   spacing in the setting of malnutrition, liver disease, and cancer.
   Weaned steroids.
   - Previously on hydrocortisone 25mg q6 for adrenal insufficiency, wean
   to 12.5mg q6h yesterday, change to 7.25mg yesterday
   .
   #Hct drop: s/p blood transfusion Has improved and been stable. Is
   pancytopenic.  Possible shock reaction, possibly from chemo or
   questionable primary bone marrow source.
   - Transfuse for Hct <21
   .
   #: Anasarca/ Liver disease: Most likely d/t liver disease, although
   cannot r/o some cardiac involvement. S/p paracentesis on [**12-17**].
   - Hepaotology recommends leaving draining paracentesis site for now and
   hoping will close on own
   - Does not have history of SBP, so no cipro prophylaxis for now.
   - Lactulose for liver disease and bowel regimen
   .
   #: Esophageal CA: thought to be definitively treated with cisplatin and
   5-FU.
   - Esophageal cancer not involved per Dr. [**Last Name (STitle) 1932**].
   .
   #Access: L IJ, A line (to be pulled if correlates with VBG), chemo port
   and PIV.
   #FEN: replete electrolytes PRN, Nutren pulmonary tube feeds, (patient
   without gag reflex)
   #Prophylaxis: pneumoboots, heparin TID, type and screen; lactulose for
   bowel regimen
   #Code status: Full Code
   #Communication: Patient. Brother is health care proxy
   #Dispo: pending clinical stability.

2130-12-21 12:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with cirrhosis, admitted with shock  and respiratory failure.
   Patient with some desaturation overnight requiring suctioning.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2130-12-20**] 03:43 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-12-20**] 06:08 PM
   Famotidine (Pepcid) - [**2130-12-20**] 07:51 PM
   Heparin Sodium (Prophylaxis) - [**2130-12-21**] 08:57 AM
   Morphine Sulfate - [**2130-12-21**] 10:00 AM
   Other medications:
   mexilitine
   folate
   hep s/q
   famotidine
   SSI
   lactulose
   erythromycin
   hydrocort
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-21**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 86 (70 - 103) bpm
   BP: 117/79(88) {103/19(40) - 146/87(97)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.5 kg (admission): 79.8 kg
   Height: 68 Inch
             Total In:
                                                                  2,554 mL
                                                                  1,412 mL
   PO:
             TF:
                                                                    386 mL
                                                                    117 mL
   IVF:
                                                                    588 mL
                                                                  1,165 mL
   Blood products:
   Total out:
                                                                  4,055 mL
                                                                  1,380 mL
   Urine:
                                                                  3,680 mL
                                                                    630 mL
   NG:
   Stool:
                                                                    300 mL
                                                                    425 mL
   Drains:
                                                                     75 mL
                                                                    325 mL
   Balance:
                                                                 -1,501 mL
                                                                     32 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: 7.51/29/84.[**Numeric Identifier 1132**]/26/0
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   21 K/uL
   187 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   42 mg/dL
   114 mEq/L
   148 mEq/L
   32.8 %
   10.5 K/uL
        [image002.jpg]
                            [**2130-12-19**]  07:01 AM
                            [**2130-12-19**]  03:54 PM
                            [**2130-12-19**]  04:05 PM
                            [**2130-12-20**]  12:18 AM
                            [**2130-12-20**]  02:53 AM
                            [**2130-12-20**]  03:05 AM
                            [**2130-12-20**]  01:45 PM
                            [**2130-12-20**]  07:34 PM
                            [**2130-12-21**]  02:37 AM
                            [**2130-12-21**]  10:18 AM
   WBC
   8.4
   10.5
   Hct
   30.3
   32.5
   32.8
   Plt
   23
   21
   Cr
   0.7
   0.7
   0.7
   0.6
   TCO2
   26
   24
   23
   26
   24
   Glucose
   153
   188
   145
   187
   Other labs: PT / PTT / INR:24.8/40.5/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:28/47, Alk Phos / T Bili:74/3.3, Amylase
   / Lipase:/9, Differential-Neuts:90.0 %, Lymph:4.0 %, Mono:5.3 %,
   Eos:0.6 %, Lactic Acid:1.8 mmol/L, Albumin:3.9 g/dL, LDH:427 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES
   Overall improved, but very weak
   respiratory failure: wean oygen
   cirrhosis:  stable and stooling, not likely having encephalopathy
   currently.
   will hold further diuresis
   PT consult
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2130-12-21**] 03:47 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 35 minutes

2130-12-22 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS in setting of PNA
   24 Hour Events:
   No acute events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-12-21**] 04:07 PM
   Morphine Sulfate - [**2130-12-21**] 04:20 PM
   Famotidine (Pepcid) - [**2130-12-21**] 08:03 PM
   Heparin Sodium (Prophylaxis) - [**2130-12-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-22**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 85 (74 - 106) bpm
   BP: 116/74(84) {100/53(67) - 126/85(93)} mmHg
   RR: 23 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.5 kg (admission): 79.8 kg
   Height: 68 Inch
             Total In:
                                                                  3,260 mL
                                                                    323 mL
   PO:
             TF:
                                                                    348 mL
                                                                    154 mL
   IVF:
                                                                  2,553 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                  4,435 mL
                                                                    625 mL
   Urine:
                                                                  1,985 mL
                                                                    325 mL
   NG:
   Stool:
                                                                  1,325 mL
   Drains:
                                                                  1,125 mL
                                                                    300 mL
   Balance:
                                                                 -1,175 mL
                                                                   -302 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   21 K/uL
   9.9 g/dL
   130 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   36 mg/dL
   114 mEq/L
   148 mEq/L
   32.1 %
   7.0 K/uL
        [image002.jpg]
                            [**2130-12-19**]  04:05 PM
                            [**2130-12-20**]  12:18 AM
                            [**2130-12-20**]  02:53 AM
                            [**2130-12-20**]  03:05 AM
                            [**2130-12-20**]  01:45 PM
                            [**2130-12-20**]  07:34 PM
                            [**2130-12-21**]  02:37 AM
                            [**2130-12-21**]  10:18 AM
                            [**2130-12-21**]  02:32 PM
                            [**2130-12-22**]  03:30 AM
   WBC
   8.4
   10.5
   7.0
   Hct
   32.5
   32.8
   32.1
   Plt
   23
   21
   21
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.5
   TCO2
   24
   23
   26
   24
   Glucose
   153
   188
   145
   187
   176
   130
   Other labs: PT / PTT / INR:24.8/40.5/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:28/47, Alk Phos / T Bili:74/3.3, Amylase
   / Lipase:/9, Differential-Neuts:90.0 %, Lymph:4.0 %, Mono:5.3 %,
   Eos:0.6 %, Lactic Acid:1.8 mmol/L, Albumin:3.9 g/dL, LDH:427 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: No new imaging
   Microbiology: No new cultures
   [**12-18**] paracentesis shows PMN
   Assessment and Plan
   58 y/o male with Esophageal CA in remission and hepatitis C returning
   to the ICU with new hypoxic respiratory failure that had developed in
   the last 12 hours.
   .
   # Respiratory failure: Has now been extubated >24 hrs.  Improving CXR
   but with coarse central airways sounds.   He had extensive ground-glass
   opacities on CT scan suggestive of atypical pneumonia vs ARDS, which
   had covered with Vanc/Meropenem/Cipro.  Flu negative. Checked
   rheumatoid factor and cryocrit for possible pulmonary hemorrhage from
   cryoglobulinemia given history of Hep C. These were both negative. BNP
   743 and echo normal, CTA negative.  S/p paracentesis on [**12-17**].
   Extubated on [**12-18**]. Currently tachypneic and alkalemic.
   - 20 mg IV lasix this morning and this afternoon; check PM lytes
   - Stopped antibiotics as he had completed a full course, afebrile.
   - Continue nebulizers and Mucinex PRN.
   - Treat abdominal issues as below
   .
   #Altered mental status: likely due to prolonged course of intubation
   and sedation as well as sepsis and ARDS.  Hepatic encephalopathy
   contributing.  Is improving slowly.
   - hep recs: rifaximin 400TID, increase lactulose to 3-6BM, free water
   for hypernatremia, diuresis (wrote for lasix 20)
   .
   # Abdominal distension: Patient
s abdomen is distended though not
   tense.  CT scan w/ contrast confirmed no anatomic obstruction, meaning
   that he has [**Last Name (un) 5975**]
s syndrome.  Decompressed colonoscopically by GI.
   KUB improved, but then worsened again.  On [**12-16**], Neostigmine 2mg with
   0.04glycopyrrolate given with no large BM or change in distention.
   Improved, he is now having BM
   - Aggressive bowel regimen with lactulose (goal of [**3-31**]/day)
   - Discontinued Cipro prophylaxis
   .
   # Hypotension (corrected): wean steroids.   Hypotension multifactorial
   from sepsis, adrenal insufficiency and liver disease.  He did not
   respond to a cortisol stim test [**12-8**], so we are giving fluticasone and
   hydrocortisone for adrenal insufficiency.  He does have likely  3rd
   spacing in the setting of malnutrition, liver disease, and cancer.
   Weaned steroids.
   - Previously on hydrocortisone 25mg q6 for adrenal insufficiency, wean
   to 12.5mg q6h yesterday, change to 7.25mg yesterday
   .
   #Hct drop: s/p blood transfusion Has improved and been stable. Is
   pancytopenic.  Possible shock reaction, possibly from chemo or
   questionable primary bone marrow source.
   - Transfuse for Hct <21
   .
   #: Anasarca/ Liver disease: Most likely d/t liver disease, although
   cannot r/o some cardiac involvement. S/p paracentesis on [**12-17**].
   - Hepaotology recommends leaving draining paracentesis site for now and
   hoping will close on own
   - hep recs: rifaximin 400TID, increase lactulose to 3-6BM, free water
   for hypernatremia, diuresis (wrote for lasix 20)
   - Does not have history of SBP, so no cipro prophylaxis for now.
   .
   #: Esophageal CA: thought to be definitively treated with cisplatin and
   5-FU.
   - Esophageal cancer not involved per Dr. [**Last Name (STitle) 1932**].
   .
   # Tachycardia:
   - EKG today
   .
   #Access: L IJ, A line (to be pulled if correlates with VBG), chemo port
   and PIV.
   #FEN: replete electrolytes PRN, Nutren pulmonary tube feeds, (patient
   without gag reflex)
   #Prophylaxis: pneumoboots, heparin TID, type and screen; lactulose for
   bowel regimen
   #Code status: Full Code
   #Communication: Patient. Brother is health care proxy
   #Dispo: pending clinical stability.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2130-12-21**] 10:48 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-12-22 11:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with HCV cirrhosis, admitted with septic shock and
   respiratory failure.  No clear source.
   Slow improvement off ventilator.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-12-21**] 04:07 PM
   Morphine Sulfate - [**2130-12-21**] 04:20 PM
   Famotidine (Pepcid) - [**2130-12-21**] 08:03 PM
   Heparin Sodium (Prophylaxis) - [**2130-12-22**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-22**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 86 (74 - 106) bpm
   BP: 121/84(93) {100/65(73) - 126/87(94)} mmHg
   RR: 19 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.5 kg (admission): 79.8 kg
   Height: 68 Inch
             Total In:
                                                                  3,260 mL
                                                                    657 mL
   PO:
             TF:
                                                                    348 mL
                                                                    259 mL
   IVF:
                                                                  2,553 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  4,435 mL
                                                                  1,355 mL
   Urine:
                                                                  1,985 mL
                                                                    455 mL
   NG:
   Stool:
                                                                  1,325 mL
   Drains:
                                                                  1,125 mL
                                                                    300 mL
   Balance:
                                                                 -1,175 mL
                                                                   -698 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: bases, Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   21 K/uL
   130 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   36 mg/dL
   114 mEq/L
   148 mEq/L
   32.1 %
   7.0 K/uL
        [image002.jpg]
                            [**2130-12-19**]  04:05 PM
                            [**2130-12-20**]  12:18 AM
                            [**2130-12-20**]  02:53 AM
                            [**2130-12-20**]  03:05 AM
                            [**2130-12-20**]  01:45 PM
                            [**2130-12-20**]  07:34 PM
                            [**2130-12-21**]  02:37 AM
                            [**2130-12-21**]  10:18 AM
                            [**2130-12-21**]  02:32 PM
                            [**2130-12-22**]  03:30 AM
   WBC
   8.4
   10.5
   7.0
   Hct
   32.5
   32.8
   32.1
   Plt
   23
   21
   21
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.5
   TCO2
   24
   23
   26
   24
   Glucose
   153
   188
   145
   187
   176
   130
   Other labs: PT / PTT / INR:24.8/40.5/2.4, CK / CKMB /
   Troponin-T:48//0.02, ALT / AST:28/47, Alk Phos / T Bili:74/3.3, Amylase
   / Lipase:/9, Differential-Neuts:90.0 %, Lymph:4.0 %, Mono:5.3 %,
   Eos:0.6 %, Lactic Acid:1.8 mmol/L, Albumin:3.9 g/dL, LDH:427 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES
   Still overall very weak, but having slow improvement with improvement
   of MS.
   Continue lactulose and rifaxamin
   hypernatremia: add IV free water
   fluid overload:  continue diuresis
   cirrhosis
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2130-12-21**] 10:48 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-12-10**] 11:30 AM
   Multi Lumen - [**2130-12-11**] 10:59 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes